2120-04-13 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2120-4-12**] 10:10 PM
   Overnight took off his BiPAP and became bradycardic to the 30s,
   thrashing, then appeared to stop breathing, eyes deviated, desats to
   80s, placed on NRB, noted to be incontinent of stool.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-4-13**] 02:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-13**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 65 (44 - 65) bpm
   BP: 113/48(64) {90/39(54) - 129/55(73)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           254 mL
   PO:
           TF:
   IVF:
   54 mL
   Blood products:
   200 mL
   Total out:
                                                                    150 mL
                                                                     74 mL
   Urine:
                                                                    150 mL
                                                                     74 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Comfortable, NAD, oriented to place
   EOMI
   RRR, no R/G/M appreciated
   Decreased breath sounds bibasilar with diffuse moderate crackles
   throughout, no wheezes
   Abdomen obese, moderately distended, non-tender
   Labs / Radiology
   115 K/uL
   7.3 g/dL
   113 mg/dL
   4.3 mg/dL
   20 mEq/L
   4.8 mEq/L
   82 mg/dL
   106 mEq/L
   141 mEq/L
   23.1 %
   5.7 K/uL
        [image002.jpg]
                             [**2120-4-13**]  03:30 AM
   WBC
   5.7
   Hct
   23.1
   Plt
   115
   Cr
   4.3
   Glucose
   113
   Other labs: PT / PTT / INR:21.2/36.1/2.0, ALT / AST:12/36, Alk Phos / T
   Bili:142/1.5, Albumin:4.5 g/dL, LDH:180 IU/L, Ca++:9.0 mg/dL, Mg++:2.8
   mg/dL, PO4:5.2 mg/dL
                                                                [**2120-4-13**]
                                                                    03:30a
   _______________________________________________________________________
   Source: Line-picc
                                     141
                               [image004.gif]
                                     106
                               [image004.gif]
                                     82
   [image006.gif]
   113
                                                                   AGap=20
   [image007.gif]
   4.8
                               [image004.gif]
                                     20
                               [image004.gif]
                                     4.3
   [image009.gif]
   Comments:
   Glucose: If Fasting, 70-100 Normal, >125 Provisional Diabetes
   Ca: 9.0 Mg: 2.8 P: 5.2
   ALT: 12
   AP: 142
   Tbili: 1.5
   Alb: 4.5
   AST: 36
   LDH: 180
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip:
   Source: Line-picc
   92
                                                                       5.7
                                                            [image009.gif]
                                     7.3
   [image006.gif]
   115
                 [image010.gif]
   [image006.gif]
                                    23.1
   [image009.gif]
   Source: [**Name (NI) 11369**]
   PT: 21.2
   PTT: 36.1
   INR: 2.0
   Chest X-Ray: improved from yesterday, still quite hazy and diffusely
   patchy, ?RLL effusion
   Assessment and Plan
   62M with cirrhosis, hepatorenal syndrome on midodrine, octreotide and
   albumin, DM, s/p trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridments to salvage the limb.
   .
   # Respiratory Distress: Likely aspiration given history, CXR with
   bilateral infiltrate as well as volume overload from ascites, renal
   failure and oliguria.  No fever or cough to suggest pneumonia.  Not in
   the context of sleeping so unlikely hypercarbia from OSA.
   -02 to maintain sats >90%
   -repeat ABG
   -repeat CXR
   -monitor for fever but no new ABX for now as patient already on broad
   spectrum that would cover any enterics that he may have aspirated
   -increase zofran PRN nausea
   -aspiration precations
   -will give lasix IV for volume overload and spironolactone if able to
   take PO.
   -hold sedating medications (ativan and dilaudid)
   -continue patient's BIPAP for OSA
   .
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.  Plan
   on OR today for debridement. [**Month (only) 11**] need amputation in future.
   - continue daptomycin, micafungin, cefepime and metronidazole
   - f/u sensitivities for C. glabrata
   - continue to plan for OR on Monday
   - f/u ortho recs
   - f/u ID recs
   .
   # Acute renal failure: Patient with large volume of ascites which is
   not helping his respiratory status and now with worsening renal
   function and decreasing urine output. Per hepatology and renal notes,
   he has suspected hepatorenal syndome and has been on albumin,
   octreotide and midodrine. However, there has been worsening on this
   regimen, so unclear if actually a different etiology.
   -renally dose medications
   -continue albumin, octreotide, midodrine for HRS
   -f/u renal recs in AM
   -strict I&Os
   -restart lasix to try to improve volume overload from oliguria/ascites.
   -if no improvement patient may require dialysis/CVVH for volume
   management.
   .
   #Cirrhosis: Not transplant candidate per hepatology (though unsure
   reason). Has had some increasing encephalopathy on the floor.  No fever
   or abdominal pain concerning for SBP though always a possibility.
   - continue outpatient regimen of lactulose and rifaximin - titrate to
   [**4-12**] BM daily
   - continue midodrine, octreotide and albumin for now
   - continue nadolol
   - restart lasix IV tonight and if possible restart PO spironolactone in
   the AM
   - continue low Na diet
   - patient supposed to have paracentesis tomorrow, if still here will do
   try to take off < 5L
   -f/u liver recs
   .
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.
   - continue PO PPI
   - continue nadolol to 20mg
   - transfusion goal of 21 or 25 if evidence of bleeding or
   hypoperfusion
   - will need follow up EGD 2 weeks from 2/19 weeks for re-banding
   .
   # Thrombocytopenia: Stable, >100. Likely secondary to cirrhosis.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   .
   # Diabetes mellitus: Continue [**Last Name (LF) **], [**First Name3 (LF) 116**] [**2-10**] nightime insulin given poor
   PO intake today and vomiting tonight
   - follow up [**Hospital 294**] Clinic recs
   .
   # Hypertension:
   - on nadolol for varices prophylaxis.
   - Holding metoprolol and amlodipine given slightly lower BP, would like
   to have BP room for diuresis
   .
   # Obstructive sleep apnea:
   - home BiPAP overnight
   .
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   .
   # Depression: Continue escitalopram and bupropion.
   .
   .
   # FEN: no IVF for now / replete lytes prn / diabetic, low salt diet
   with aspiration precautions
   # PPX: PPI, SC heparin, bowel regimen
   # ACCESS: PICC
   # CODE: FULL CODE
   # CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11361**] c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**]
   # DISPO: ICU for now, if back to 2L 02 can consider c/o to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-14 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2120-4-13**] 02:34 PM
 BLOOD CULTURED - At [**2120-4-13**] 04:16 PM
   PICC
 NASAL SWAB - At [**2120-4-13**] 04:16 PM
   MRSA screen swab
 INVASIVE VENTILATION - START [**2120-4-13**] 09:12 PM
 ARTERIAL LINE - START [**2120-4-13**] 09:25 PM
 DIALYSIS CATHETER - START [**2120-4-13**] 09:29 PM
   Pt. acutely decompensated yesterday evening with increased work of
   brething and confusion s/p paracentesis.  Attempted to give high dose
   diuril/lasix without effect.  Pt. was intubated, a-line placed, HD line
   placed and patient was dialyzed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2120-4-13**] 08:18 AM
   Micafungin - [**2120-4-13**] 09:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-14**] 04:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-4-13**] 03:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-14**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 61 (55 - 65) bpm
   BP: 100/37(54) {100/37(54) - 169/81(107)} mmHg
   RR: 24 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  1,398 mL
                                                                    500 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                    819 mL
                                                                    500 mL
   Blood products:
                                                                    459 mL
   Total out:
                                                                  3,534 mL
                                                                    246 mL
   Urine:
                                                                    534 mL
                                                                     42 mL
   NG:
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                 -2,136 mL
                                                                    254 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 579) mL
   Vt (Spontaneous): 573 (380 - 620) mL
   PS : 15 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 35 cmH2O
   Plateau: 27 cmH2O
   Compliance: 28.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.28/47/86/22/-4
   Ve: 13.3 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Gen: NAD: intubated, sedated
   Pulm: coarse/ rhonchorus bilaterally with equal air entry
   CV: RRR, slightly bradycardic
   ABD:  distended, + ascites, soft
   Peripheral Vascular: pulses intact
   Skin:  warm, dry
   Neurologic: intubated and sedated
   Labs / Radiology
   132 K/uL
   7.6 g/dL
   120 mg/dL
   4.3 mg/dL
   22 mEq/L
   4.3 mEq/L
   78 mg/dL
   106 mEq/L
   141 mEq/L
   24.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2120-4-13**]  03:30 AM
                             [**2120-4-13**]  07:05 PM
                             [**2120-4-13**]  09:51 PM
                             [**2120-4-13**]  10:17 PM
                             [**2120-4-14**]  01:46 AM
                             [**2120-4-14**]  05:00 AM
                             [**2120-4-14**]  05:22 AM
   WBC
   5.7
   9.3
   Hct
   23.1
   24.5
   Plt
   115
   132
   Cr
   4.3
   4.5
   4.3
   TCO2
   23
   23
   20
   23
   Glucose
   113
   117
   120
   Other labs: PT / PTT / INR:19.9/36.1/1.8, ALT / AST:13/31, Alk Phos / T
   Bili:141/1.6, Albumin:4.5 g/dL, LDH:160 IU/L, Ca++:8.7 mg/dL, Mg++:2.4
   mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   62M with cirrhosis, hepatorenal syndrome on midodrine, octreotide and
   albumin, DM, s/p trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridments to salvage the limb.
   # Respiratory Distress: Likely volume overload as well as aspiration
   given history, CXR with bilateral infiltrate as well as volume overload
   from ascites, renal failure and oliguria.  No fever or cough to suggest
   pneumonia.  Not in the context of sleeping so unlikely hypercarbia from
   OSA.  On dapto, micafungin, zosyn added yesterday.  Patient received
   lasix/diuril in attempt to diurese, however unsuccessful.  Pt. was
   intubated, sedated and HD line placed in order to take off volume.
   -continue intubation with continued AC
   - f/u CXR
   -continue zosyn/dapto/micafungin; change zosyn dosing
   -continue famotidine
   -continue CVVH for fluid removal
   -d/c midazolam, increase fentanyl as needed with perhaps low-dose
   propofol.
   -continue to f/u renal recs
   # Acute renal failure: Patient with large volume of ascites which is
   not helping his respiratory status and now with worsening renal
   function and decreasing urine output. Per hepatology and renal notes,
   he has suspected hepatorenal syndome and has been on albumin,
   octreotide and midodrine. However, there has been worsening on this
   regimen, so unclear if actually a different etiology.  HD lined placed
   on [**2120-4-13**]
   - Continue CVVH
   -renally dose medications
   -continue octreotide, midodrine for HRS
 albumin stopped on [**4-13**]
   -f/u renal recs in AM
   -strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology.  Has had some
   increasing encephalopathy on the floor.  No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-13**] with 3 L removed and no evidence of SBP.  Albumin and nadolol DC
   on [**4-13**].
   - continue outpatient regimen of lactulose and rifaximin - titrate to
   [**4-12**] BM daily
   - continue midodrine, octreotide
   -f/u liver recs
   - Check abdominal pressures
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
   Followed by ortho and will likely need another washout in the OR. [**Month (only) 11**]
   need amputation in future.
   - continue daptomycin, micafungin
   - f/u sensitivities for C. glabrata
   - tentative plan for OR on Monday pending clinical status
   - f/u ortho recs
   - f/u ID recs
   - Check CK
   # Bradycardia
 originally thought likely d/t hypoxemia.  Intubated on
   [**4-13**] and pt. has had HR in 50s.  Nadolol held starting on [**4-13**].
   - continue to hold nadolol
   - continue to monitor
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today at 24.5
   - continue PPI
   - hold nadolol 20mg  in setting of bradycardia
   - transfusion goal of 21 or evidence of bleeding or hypoperfusion
   - will need follow up EGD
 will speak with liver regarding this
   # Thrombocytopenia: Stable, >100. Likely secondary to cirrhosis.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI
   - follow up [**Hospital 294**] Clinic recs  now that patient is intubated
   # Hypertension:
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea:
   - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: intubated, OG tube in place, NPO now
   # PPX: famotidine, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   # CODE: FULL CODE
   # CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11361**] c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**]
   # DISPO: ICU

2120-04-15 06:56:00 Physician Resident Progress Note
Chief Complaint:
   Over the Weekend
   LV Paracentesis [**4-13**] after which acute decompensated and needed
   intubation. Now on CVVH removing fluid and levophed. A-line and
   dialysis catheter placed.
   24 Hour Events:
   Ortho: would like to take him to OR (pg [**Numeric Identifier 11396**]), taking him to the OR
   for washout roughly every 3 days. Still on CVVH trying to get fluid
   off, still requiring levophed.
   Considering an SBT this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2120-4-14**] 10:00 AM
   Daptomycin - [**2120-4-14**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-15**] 06:07 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl (Concentrate) - 250 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-4-14**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-14**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-15**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 53 (46 - 58) bpm
   BP: 139/60(83) {94/36(53) - 145/70(98)} mmHg
   RR: 20 (19 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 10 (8 - 10)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  4,165 mL
                                                                  2,102 mL
   PO:
   TF:
   IVF:
                                                                  4,165 mL
                                                                  2,102 mL
   Blood products:
   Total out:
                                                                  7,412 mL
                                                                  3,428 mL
   Urine:
                                                                    113 mL
   NG:
                                                                    550 mL
                                                                    150 mL
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                                                 -3,247 mL
                                                                 -1,326 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 38 cmH2O
   Plateau: 25 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/43/119/23/-2
   Ve: 13.4 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Gen: NAD: intubated, sedated
   Pulm: coarse/ rhonchorus bilaterally with equal air entry
   CV: RRR, slightly bradycardic
   ABD:  distended, + ascites, soft
   Peripheral Vascular: pulses intact
   Skin:  warm, dry
   Neurologic: intubated and sedated
   Labs / Radiology
   122 K/uL
   8.4 g/dL
   166 mg/dL
   3.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   46 mg/dL
   100 mEq/L
   138 mEq/L
   26.8 %
   10.9 K/uL
        [image002.jpg]
                             [**2120-4-14**]  05:00 AM
                             [**2120-4-14**]  05:22 AM
                             [**2120-4-14**]  10:00 AM
                             [**2120-4-14**]  10:28 AM
                             [**2120-4-14**]  04:09 PM
                             [**2120-4-14**]  04:40 PM
                             [**2120-4-14**]  10:00 PM
                             [**2120-4-14**]  10:11 PM
                             [**2120-4-15**]  04:32 AM
                             [**2120-4-15**]  04:37 AM
   WBC
   9.3
   10.9
   Hct
   24.5
   26.8
   Plt
   132
   122
   Cr
   4.3
   3.9
   3.5
   3.1
   3.0
   TCO2
   23
   23
   24
   23
   24
   Glucose
   120
   117
   140
   153
   166
   Other labs: PT / PTT / INR:23.8/37.0/2.3, CK / CKMB / Troponin-T:15//,
   ALT / AST:12/43, Alk Phos / T Bili:141/2.4, Albumin:4.5 g/dL, LDH:214
   IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   62M with cirrhosis, hepatorenal syndrome on midodrine, octreotide and
   albumin, DM, s/p trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridments to salvage the limb.
   # Respiratory Distress: Likely volume overload as well as aspiration
   given history, CXR with bilateral infiltrate as well as volume overload
   from ascites, renal failure and oliguria.  No fever or cough to suggest
   pneumonia.  Not in the context of sleeping so unlikely hypercarbia from
   OSA.  On dapto, micafungin, zosyn added yesterday.  Patient received
   lasix/diuril in attempt to diurese, however unsuccessful.  Pt. was
   intubated, sedated and HD line placed in order to take off volume.
   -continue intubation with continued AC
   - f/u CXR
   -continue zosyn/dapto/micafungin renally dosed; MRSA in lungs; if
   positive cultures will consider linezolid but hold off for now.
   -need adequate respiratory sample; if sputum/suction does not work,
   will consider BAL.
   -continue famotidine
   -continue CVVH for fluid removal at 250-300/hr
   -d/c midazolam, increase fentanyl as needed with perhaps low-dose
   propofol.
   -continue to f/u renal recs
   - CVP <4 or rise in pressor requirement >0.1 indicates approaching
   euvolemia.
   # Acute renal failure: Patient with large volume of ascites which is
   not helping his respiratory status and now with worsening renal
   function and decreasing urine output. Per hepatology and renal notes,
   he has suspected hepatorenal syndome and has been on albumin,
   octreotide and midodrine. However, there has been worsening on this
   regimen, so unclear if actually a different etiology.  HD lined placed
   on [**2120-4-13**]
   - Continue CVVH
   -renally dose medications
   -continue octreotide, midodrine for HRS
 albumin stopped on [**4-13**]
   -f/u renal recs in AM
   -strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology.  Has had some
   increasing encephalopathy on the floor.  No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-13**] with 3 L removed and no evidence of SBP.  Albumin and nadolol DC
   on [**4-13**].
   - If IAB >3.5, consider parascentesis
   - continue outpatient regimen of lactulose and rifaximin - titrate to
   [**4-12**] BM daily
   - continue midodrine, octreotide
   -f/u liver recs
   - Check abdominal pressures
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
   Followed by ortho and will likely need another washout in the OR. [**Month (only) 11**]
   need amputation in future.
   - continue daptomycin, micafungin
    - IV vitamin K, blood bank samples, 2U on call in preparation for OR
   - f/u sensitivities for C. glabrata
   - tentative plan for OR on Monday pending clinical status 3pm
   - f/u ortho recs
   - f/u ID recs
   - Check CK
   # Bradycardia
 originally thought likely d/t hypoxemia.  Intubated on
   [**4-13**] and pt. has had HR in 50s.  Nadolol held starting on [**4-13**].
   - continue to hold nadolol
   - continue to monitor
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today at 24.5
   - continue PPI
   - hold nadolol 20mg  in setting of bradycardia
   - transfusion goal of 21 or evidence of bleeding or hypoperfusion
   - will need follow up EGD
 will speak with liver regarding this
   # Thrombocytopenia: Stable, >100. Likely secondary to cirrhosis.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI
   - Got
 dose lantus; transition to sliding scale for OR. If patient is
   becoming refractory to SC insulin, will consider insulin drip
   - follow up [**Hospital 294**] Clinic recs  now that patient is intubated
   # Hypertension:
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea:
   - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: intubated, OG tube in place, NPO now
   - NGT to suction
   # PPX: famotidine, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   # CODE: FULL CODE
   # CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11361**] c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-16 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -went to OR for right leg washout yesteeday
   -pressures higher upon return, tapered off levophed
   -still on CVVH
   -wound culture came back 1+ PMNs and 1+ yeast
   -1:30 AM pt extubated himself --> anesthesia called, reintubated, added
   [**3-14**] versed to fentanyl (running at 300mcg) --> ABG 7.39/43/83/27 @
   FiO2%:50; PEEP:8; Temp:37.0
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2120-4-15**] 11:03 AM
   Daptomycin - [**2120-4-15**] 06:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-16**] 02:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Fentanyl - [**2120-4-15**] 10:11 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-15**] 11:11 PM
   Midazolam (Versed) - [**2120-4-16**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-16**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.6
C (96.1
   HR: 58 (44 - 67) bpm
   BP: 108/54(69) {63/38(47) - 169/71(99)} mmHg
   RR: 18 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
    CVP: 16 (11 - 17)mmHg
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  7,994 mL
                                                                  3,251 mL
   PO:
   TF:
   IVF:
                                                                  7,334 mL
                                                                  3,251 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                 11,885 mL
                                                                  4,938 mL
   Urine:
                                                                      5 mL
                                                                     27 mL
   NG:
                                                                    500 mL
                                                                    250 mL
   Stool:
   Drains:
                                                                    350 mL
                                                                    300 mL
   Balance:
                                                                 -3,891 mL
                                                                 -1,687 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/43/83/25/0
   Ve: 15.6 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Gen: NAD: intubated, sedated
   Pulm: coarse blaterally with equal air entry
   CV: RRR, slightly bradycardic
   ABD:  distended, + ascites, soft, ascetic fluid draining into bag, no
   bleeding
   Ext:  RLE in ex-fix, minimal drainage on dressing, no active bleeding
   Peripheral Vascular: pulses intact
   Skin:  warm, dry
   Neurologic: intubated and sedated, does move hands in response to voice
   Labs / Radiology
   111 K/uL
   7.6 g/dL
   184 mg/dL
   2.2 mg/dL
   25 mEq/L
   3.3 mEq/L
   31 mg/dL
   98 mEq/L
   137 mEq/L
   24.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2120-4-14**]  10:00 PM
                             [**2120-4-14**]  10:11 PM
                             [**2120-4-15**]  04:32 AM
                             [**2120-4-15**]  04:37 AM
                             [**2120-4-15**]  08:37 AM
                             [**2120-4-15**]  09:32 AM
                             [**2120-4-15**]  10:36 AM
                             [**2120-4-15**]  06:26 PM
                             [**2120-4-16**]  02:01 AM
                             [**2120-4-16**]  02:14 AM
   WBC
   10.9
   7.3
   Hct
   26.8
   24.1
   Plt
   122
   111
   Cr
   3.1
   3.0
   2.8
   2.8
   2.8
   2.2
   TCO2
   23
   24
   25
   27
   Glucose
   153
   166
   152
   183
   197
   184
   Other labs: PT / PTT / INR:19.1/37.1/1.7, CK / CKMB / Troponin-T:60//,
   ALT / AST:14/46, Alk Phos / T Bili:126/2.5, Differential-Neuts:81.9 %,
   Band:0.0 %, Lymph:11.0 %, Mono:4.0 %, Eos:2.8 %, Lactic Acid:2.1
   mmol/L, Albumin:3.7 g/dL, LDH:222 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
   62M with cirrhosis, hepatorenal syndrome on midodrine, octreotide and
   albumin, DM, s/p trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridments to salvage the limb.
   # Respiratory Distress: Likely volume overload as well as aspiration
   given history, CXR with bilateral infiltrate as well as volume overload
   from ascites, renal failure and oliguria.  No fever or cough to suggest
   pneumonia.  Not in the context of sleeping so unlikely hypercarbia from
   OSA.  On dapto, micafungin, zosyn added yesterday.  Patient received
   lasix/diuril in attempt to diurese, however unsuccessful.  Pt. was
   intubated, sedated and HD line placed in order to take off volume.
   -continue intubation with continued AC
   -continue zosyn/dapto/micafungin renally dosed; MRSA in lungs; if
   positive cultures will consider linezolid but hold off for now.
   -need adequate respiratory sample; if sputum/suction does not work,
   will consider BAL.
   -continue famotidine
   -continue CVVH for fluid removal at 250-300/hr
   -continue fentanyl
   -stop midaz
   -start low dose propofol
   -continue to f/u renal recs
   -CVP <4 or rise in pressor requirement >0.1 indicates approaching
   euvolemia
   -consider trial of pressure support today
   -continue to follow sputem cultures
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
   Followed by ortho and will likely need another washout in the OR. [**Month (only) 11**]
   need amputation in future.
   - continue daptomycin, micafungin
    -IV vitamin K, blood bank samples, 2U on call in preparation for OR
   - f/u sensitivities for C. glabrata
   - tentative plan for OR on Monday pending clinical status 3pm
   - monitor wound cultures, blood cultures
   - surveillance blood cultures
   - f/u ortho recs
   - f/u ID recs
   - Check CK
   # Acute renal failure: Patient with large volume of ascites which is
   not helping his respiratory status and now with worsening renal
   function and decreasing urine output. Per hepatology and renal notes,
   he has suspected hepatorenal syndome and has been on albumin,
   octreotide and midodrine. However, there has been worsening on this
   regimen, so unclear if actually a different etiology.  HD lined placed
   on [**2120-4-13**]
   -continue CVVH
   -renally dose medications
   -continue octreotide, midodrine for HRS
 albumin stopped on [**4-13**]
   -f/u renal recs in AM
   -strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology.  Has had some
   increasing encephalopathy on the floor.  No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-13**] with 3 L removed and no evidence of SBP.  Albumin and nadolol DC
   on [**4-13**].
   - If IAB >3.5, consider parascentesis
   - continue outpatient regimen of lactulose and rifaximin - titrate to
   [**4-12**] BM daily
   - continue midodrine, octreotide
   - f/u liver recs
   - Check abdominal pressures
   # Gut Motility: multiple potential etiologies
   - start small dose Reglan
   - consider PO naltrexone if fails
   # Bradycardia
 originally thought likely d/t hypoxemia.  Intubated on
   [**4-13**] and pt. has had HR in 50s.  Nadolol held starting on [**4-13**].
   - look into whether octreotide might be contributing to his
   bradycardia, if so stop octreotide
   - continue to hold nadolol
   - continue to monitor
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today at 24.5
   - check [**Hospital1 **] HCTs
   - continue PPI
   - hold nadolol 20mg  in setting of bradycardia
   - transfusion goal of 21 or evidence of bleeding or hypoperfusion
   - will need follow up EGD
 will speak with liver regarding this
   # Thrombocytopenia: Stable, >100. Likely secondary to cirrhosis.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI
   - follow up [**Hospital 294**] Clinic recs  now that patient is intubated
   - increase ISS
   - will start
 dose of lantus (8 units) today
   # Hypertension:
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea:
   - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: intubated, OG tube in place, NPO now
   - NGT to suction
   # PPX: famotidine, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   # CODE: FULL CODE
   # CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11361**] c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**]
   # DISPO: ICU

2120-04-17 07:35:00 Physician Resident Progress Note
24 Hour Events:
   [**2120-4-17**]
   Stable overnight on CVVH.  Started on Reglan yesterday, but residuals
   still 150.  Pt. off midaz, on propofol and fentanyl and has been well
   sedated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2120-4-16**] 08:00 AM
   Piperacillin - [**2120-4-16**] 12:00 PM
   Daptomycin - [**2120-4-16**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-17**] 12:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-4-16**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-16**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-17**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.5
   HR: 45 (41 - 58) bpm
   BP: 119/51(69) {90/42(55) - 143/62(87)} mmHg
   RR: 22 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
    CVP: 8 (8 - 8)mmHg
   Bladder pressure: 9 (9 - 9) mmHg
                                Total In:
                                                                  9,261 mL
                                                                  2,619 mL
   PO:
                                TF:
   IVF:
                                                                  9,261 mL
                                                                  2,619 mL
   Blood products:
   Total out:
                                                                 15,982 mL
                                                                  3,049 mL
   Urine:
                                                                     60 mL
                                                                     10 mL
   NG:
                                                                    450 mL
                                                                    150 mL
   Stool:
   Drains:
                                                                    300 mL
   Balance:
                                                                 -6,721 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/41/158/23/0
   Ve: 12.8 L/min
   PaO2 / FiO2: 316
   Physical Examination
   Gen: Sedated, intubated
   Resp: expiratory wheezes, anteriorly
   Cards: bradycardic, rr, no m/r/g
   Ext: RLE external fixator in place, wound vac draining small amount
   serous fluid
   Labs / Radiology
   113 K/uL
   8.9 g/dL
   211 mg/dL
   2.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   20 mg/dL
   98 mEq/L
   136 mEq/L
   27.6 %
   11.1 K/uL
        [image002.jpg]
                             [**2120-4-16**]  02:01 AM
                             [**2120-4-16**]  02:14 AM
                             [**2120-4-16**]  08:51 AM
                             [**2120-4-16**]  09:08 AM
                             [**2120-4-16**]  03:41 PM
                             [**2120-4-16**]  04:19 PM
                             [**2120-4-16**]  10:05 PM
                             [**2120-4-16**]  10:15 PM
                             [**2120-4-17**]  03:45 AM
                             [**2120-4-17**]  04:02 AM
   WBC
   7.3
   11.1
   Hct
   24.1
   27.8
   27.6
   Plt
   111
   113
   Cr
   2.2
   2.1
   2.0
   TCO2
   27
   29
   26
   25
   26
   Glucose
   197
   184
   196
   [**Telephone/Fax (3) 11428**]
   Other labs: PT / PTT / INR:19.1/37.1/1.7, CK / CKMB / Troponin-T:60//,
   ALT / AST:19/61, Alk Phos / T Bili:148/3.0, Differential-Neuts:81.9 %,
   Band:0.0 %, Lymph:11.0 %, Mono:4.0 %, Eos:2.8 %, Lactic Acid:2.1
   mmol/L, Albumin:3.7 g/dL, LDH:210 IU/L, Ca++:10.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   62M with cirrhosis, hepatorenal syndrome on midodrine and albumin, DM,
   s/p trimalleolar fracture s/p ex-fix with deep infection s/p multiple
   debridments to salvage the limb.
   # Respiratory Distress: Likely volume overload as well as aspiration
   given history, CXR with bilateral infiltrate as well as volume overload
   from ascites, renal failure and oliguria.  No fever or cough to suggest
   pneumonia.  Not in the context of sleeping so unlikely hypercarbia from
   OSA.  On dapto, micafungin, zosyn added yesterday.  Patient received
   lasix/diuril in attempt to diurese, however unsuccessful.  Pt. was
   intubated, sedated and HD line placed in order to take off volume.
   -continue intubation with continued AC
   -continue zosyn/dapto/micafungin renally dosed; MRSA in lungs; if
   positive cultures will consider linezolid but hold off for now.
   -need adequate respiratory sample; if sputum/suction does not work,
   will consider BAL.
   -continue famotidine
   -continue CVVH for fluid removal at 250-300/hr
   -continue fentanyl
   -stop midaz
   -start low dose propofol
   -continue to f/u renal recs
   -CVP <4 or rise in pressor requirement >0.1 indicates approaching
   euvolemia
   -consider trial of pressure support today
   -continue to follow sputem cultures
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
   Followed by ortho and will likely need another washout in the OR. [**Month (only) 11**]
   need amputation in future.
   - continue daptomycin, micafungin
    -IV vitamin K, blood bank samples, 2U on call in preparation for OR
   - f/u sensitivities for C. glabrata
   - tentative plan for OR on Monday pending clinical status 3pm
   - monitor wound cultures, blood cultures
   - surveillance blood cultures
   - f/u ortho recs
   - f/u ID recs
   - Check CK
   # Acute renal failure: Patient with large volume of ascites which is
   not helping his respiratory status and now with worsening renal
   function and decreasing urine output. Per hepatology and renal notes,
   he has suspected hepatorenal syndome and has been on albumin,
   octreotide and midodrine. However, there has been worsening on this
   regimen, so unclear if actually a different etiology.  HD lined placed
   on [**2120-4-13**]
   -continue CVVH
   -renally dose medications
   -continue octreotide, midodrine for HRS
 albumin stopped on [**4-13**]
   -f/u renal recs in AM
   -strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology.  Has had some
   increasing encephalopathy on the floor.  No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-13**] with 3 L removed and no evidence of SBP.  Albumin and nadolol DC
   on [**4-13**].
   - If IAB >3.5, consider parascentesis
   - continue outpatient regimen of lactulose and rifaximin - titrate to
   [**4-12**] BM daily
   - continue midodrine, octreotide
   - f/u liver recs
   - Check abdominal pressures
   # Gut Motility: multiple potential etiologies. Pt noted to have small
   residuals
   - Continuing Reglan
   - consider PO naltrexone if fails
   # Bradycardia
 originally thought likely d/t hypoxemia.  Intubated on
   [**4-13**] and pt. has had HR in 50s.  Nadolol held starting on [**4-13**].
   - look into whether octreotide might be contributing to his
   bradycardia, if so stop octreotide
   - continue to hold nadolol
   - continue to monitor
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today at 24.5
   - check [**Hospital1 **] HCTs
   - continue PPI
   - hold nadolol 20mg  in setting of bradycardia
   - transfusion goal of 21 or evidence of bleeding or hypoperfusion
   - will need follow up EGD
 will speak with liver regarding this
   # Thrombocytopenia: Stable, >100. Likely secondary to cirrhosis.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI
   - follow up [**Hospital 294**] Clinic recs  now that patient is intubated
   - increase ISS
   - will start
 dose of lantus (8 units) today
   # Hypertension:
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea:
   - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: intubated, OG tube in place, NPO now
   - NGT to suction
   # PPX: famotidine, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   # CODE: FULL CODE
   # CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11361**] c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-18 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   weaned off sedation but left some propofol on, had to leave some
   pressor on as well
   roughly even
   moved his bowels
   wakes up but not responding to commands -- feel still encephalopathic
   -- needs more lactulose
   RISB 24
   SBT this morning
   Now: 110/54, hr 50
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-17**] 12:00 AM
   Micafungin - [**2120-4-17**] 08:17 AM
   Daptomycin - [**2120-4-17**] 05:23 PM
   Piperacillin - [**2120-4-18**] 01:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-4-17**] 02:00 PM
   Famotidine (Pepcid) - [**2120-4-17**] 02:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-18**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 57 (49 - 71) bpm
   BP: 95/39(55) {86/39(55) - 151/61(84)} mmHg
   RR: 15 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 361 (2 - 361)mmHg
   Total In:
                                                                  8,857 mL
                                                                  1,375 mL
   PO:
   TF:
   IVF:
                                                                  8,857 mL
                                                                  1,375 mL
   Blood products:
   Total out:
                                                                  7,672 mL
                                                                  1,474 mL
   Urine:
                                                                     18 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                  1,185 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 446 (446 - 710) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 15 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.26/57/112/24/-2
   Ve: 8.1 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Gen: Sedated, intubated
   Resp: expiratory wheezes, anteriorly
   Cards: bradycardic, rr, no m/r/g
   Ext: RLE external fixator in place, wound vac draining small amount
   serous fluid
   Labs / Radiology
   115 K/uL
   8.3 g/dL
   188 mg/dL
   2.3 mg/dL
   24 mEq/L
   4.1 mEq/L
   18 mg/dL
   103 mEq/L
   137 mEq/L
   27.2 %
   13.5 K/uL
        [image002.jpg]
                             [**2120-4-17**]  03:45 AM
                             [**2120-4-17**]  04:02 AM
                             [**2120-4-17**]  09:47 AM
                             [**2120-4-17**]  10:04 AM
                             [**2120-4-17**]  04:32 PM
                             [**2120-4-17**]  04:49 PM
                             [**2120-4-17**]  09:11 PM
                             [**2120-4-17**]  09:29 PM
                             [**2120-4-18**]  04:05 AM
                             [**2120-4-18**]  04:19 AM
   WBC
   11.1
   13.5
   Hct
   27.6
   27.2
   Plt
   113
   115
   Cr
   2.0
   2.1
   2.3
   TCO2
   26
   22
   26
   25
   27
   Glucose
   [**Telephone/Fax (3) 11441**]06
   188
   Other labs: PT / PTT / INR:17.5/38.2/1.6, CK / CKMB / Troponin-T:60//,
   ALT / AST:31/135, Alk Phos / T Bili:167/2.6, Differential-Neuts:81.9 %,
   Band:0.0 %, Lymph:11.0 %, Mono:4.0 %, Eos:2.8 %, Lactic Acid:2.1
   mmol/L, Albumin:3.3 g/dL, LDH:214 IU/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.7 mg/dL
                                                                [**2120-4-18**]
                                                                    04:19a
   _______________________________________________________________________
                                     pH
                                    7.26
                                    pCO2
                                     57
                                     pO2
                                     112
                                    HCO3
                                     27
                                   BaseXS
                                     -2
   Type:Art; Intubated; Vent:Spontaneous; FiO2%:40; Rate:/16; PEEP:5;
   Temp:37.2
   freeCa:1.06
                                                                [**2120-4-17**]
                                                                     9:29p
   _______________________________________________________________________
                                     pH
                                    7.26
                                    pCO2
                                     53
                                     pO2
                                     150
                                    HCO3
                                     25
                                   BaseXS
                                     -3
   Type:Art; Intubated; Vent:Spontaneous; 96 Axillary; Temp:36.7
   freeCa:1.02
                                                                [**2120-4-17**]
                                                                     4:49p
   _______________________________________________________________________
                                     pH
                                    7.26
                                    pCO2
                                     56
                                     pO2
                                     158
                                    HCO3
                                     26
                                   BaseXS
                                     -2
   Type:Art
   freeCa:1.10
                                                                [**2120-4-17**]
                                                                    10:04a
   _______________________________________________________________________
                                     pH
                                    7.37
                                    pCO2
                                     37
                                     pO2
                                     180
                                    HCO3
                                     22
                                   BaseXS
                                     -3
   Type:Art
   freeCa:1.10
   MICRO:
   [1][**2120-4-17**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   [2][**2120-4-16**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   [3][**2120-4-16**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [4][**2120-4-16**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [5][**2120-4-15**]
   SWAB
   GRAM STAIN-FINAL; WOUND CULTURE-PRELIMINARY {YEAST}; FUNGAL
   CULTURE-PRELIMINARY; ANAEROBIC CULTURE-PRELIMINARY
   [6][**2120-4-15**]
   TISSUE
   GRAM STAIN-FINAL; TISSUE-PRELIMINARY {YEAST}; ANAEROBIC
   CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY
   [7][**2120-4-15**]
   TISSUE
   GRAM STAIN-FINAL; TISSUE-PRELIMINARY {YEAST}; ANAEROBIC
   CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY
   [8][**2120-4-15**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {GRAM NEGATIVE ROD(S)}
   Assessment and Plan
   62M NASH, NSTEMI, trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridements, OSA, progressive ARF [**3-12**] hepatorenal
   syndrome on midodrine and albumin and volume overload originally
   brought to ICU with respiratory distress and bradycardia in the setting
   of volume overload and aspiration. Wound improving per ortho.
   Continuing on CVVH.
   # Respiratory Distress: Pt. remains intubated. Yesterday held sedation,
   decreased Ve and tried PSV. Original respiratory distress likely volume
   overload as well as aspiration given history, CXR with bilateral
   infiltrate as well as volume overload from ascites, renal failure and
   oliguria.  No fever or cough to suggest pneumonia.  Not in the context
   of sleeping so unlikely hypercarbia from OSA.  On dapto, micafungin,
   zosyn.  Patient received lasix/diuril in attempt to diurese, however
   unsuccessful.  Has had about 16 L taken off with CVVH. RISB 24.
   -SBT this morning
   - Will start lactulose 60 mg q4h for encephelopathy
   -continue zosyn/dapto/micafungin renally dosed; MRSA in lungs; if
   positive cultures will consider linezolid but hold off for now.
   -need adequate respiratory sample; if sputum/suction does not work,
   will consider BAL.
   -continue famotidine
   -holding CVVH for now, consider HD in future
   -wean fentanyl and propofol today with goal of waking him up
   -CVP <4 or rise in pressor requirement >0.1 indicates approaching
   euvolemia
 he is approaching this today and will discuss with renal
   drive
   -continue to follow sputum cultures
   # Acute renal failure: Patient with large volume of ascites which is
   not helping his respiratory status and now with worsening renal
   function and decreasing urine output. Per hepatology and renal notes,
   he has suspected hepatorenal syndome and has been on albumin,
   octreotide and midodrine. However, there has been worsening on this
   regimen, so unclear if actually a different etiology.  HD lined placed
   on [**2120-4-13**]
   -holding CVVH
 considering transition to HD in future if tolerates
   -renally dose medications
   -continue midodrine for HRS
 albumin stopped on [**4-13**]
   -f/u renal recs in AM
   -strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology.  Has had some
   increasing encephalopathy on the floor.  No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-13**] with 3 L removed and no evidence of SBP.  Albumin and nadolol DC
   on [**4-13**].
   - If IAB >3.5, consider parascentesis
   - increase lactulose as above, 60 mg q4h
   - continue rifaximin
   - continue midodrine
   - f/u liver recs
   - Track intraabdominal pressures, tap if > 25
   # Leukocytosis: WBC now 13.5 not on steroids, temps 96, hypotensive but
   bradycardic. Cannot rule out sepsis.
   - continue daptomycin, micafungin, pip-tazo
   - Will call lab for speciation of gram negative rod from sputum sample
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
   Followed by ortho and will likely need s/p washout in the OR on [**4-15**].
   [**Month (only) 11**] need amputation in future.
   - Plan for bedside wound vac change tomorrow per ortho
   - continue daptomycin, micafungin, pip-tazo
   - f/u sensitivities for C. glabrata
   - monitor wound cultures, blood cultures
   - surveillance blood cultures
   - f/u ortho recs
 wound vac changed per ortho
   - f/u ID recs
   # Gut Motility/Concern for Ileus: Moved bowels overnight. On reglan.
   - Continue Reglan
   - Give PO meds
   - Give lactulose as above
   # Bradycardia
 originally thought likely d/t hypoxemia.  Intubated on
   [**4-13**] and pt. has had HR in 50s.  Nadolol held starting on [**4-13**].
   - octreotide was DC
   - continue to hold nadolol
   - continue to monitor
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today.
   - check QD HCTs
   - continue PPI
   - hold nadolol 20mg  in setting of bradycardia
   - transfusion goal of 21 or evidence of bleeding or hypoperfusion
   - will need follow up EGD
 will speak with liver regarding this
   # Thrombocytopenia: Stable, >100. Likely secondary to cirrhosis.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI
   - follow up [**Hospital 294**] Clinic recs  now that patient is intubated
   - increase ISS
   - will continue dose of lantus (8 units) today; increase tomorrow as
   needed
   # Hypertension:
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea: - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: intubated, extubation trial today if more alert, OG tube in
   place
   - NPO now except for meds
   - NGT to suction
   # PPX: famotidine, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
   # CODE: FULL CODE
   # CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11361**] c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**]
   # DISPO: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);

2120-04-19 07:05:00 Physician Resident Progress Note
Chief Complaint: Respiratory Distress
   24 Hour Events:
   -No CVVH done yesterday as line became clotted.  Pt. remained
   intubated, weaned off sedation.  Started on high dose lactulose with
   good effect.
   VAC was changed on [**4-17**] by ortho, stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-17**] 12:00 AM
   Micafungin - [**2120-4-18**] 08:10 AM
   Piperacillin - [**2120-4-18**] 04:00 PM
   Daptomycin - [**2120-4-18**] 06:04 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-4-18**] 02:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-19**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 67 (47 - 76) bpm
   BP: 94/68(79) {86/42(60) - 141/71(84)} mmHg
   RR: 12 (12 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 3 (0 - 4)mmHg
   Total In:
                                                                  3,726 mL
                                                                    492 mL
   PO:
   TF:
   IVF:
                                                                  3,186 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                  2,813 mL
                                                                  1,010 mL
   Urine:
                                                                     29 mL
                                                                     10 mL
   NG:
                                                                    790 mL
   Stool:
   Drains:
   Balance:
                                                                    913 mL
                                                                   -518 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 553 (542 - 919) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 51
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.27/53/104/22/-2
   Ve: 7.9 L/min
   PaO2 / FiO2: 347
   Physical Examination
   Gen:  NAD, becomes mildly agitated when awoken, but does not follow
   commands
   Pulm:  coarse bilaterally
   CV:  RRR, 2/6 systolic murmur  heard all fields
   Abd:  + BS, soft, mildly distended, dry dressing over previous
   paracentesis site without noticeable drainage.
   Peripheral Vascular: radial pulses and L PT pulse intact, RLE with
   ex-fix in place, no drainage, no worsening erythema
   Skin:  warm, dry
   Neurologic: intubated, becomes mildy agitated with awakening, opened
   eyes, but not to command, moving all extremities
   Labs / Radiology
   114 K/uL
   7.9 g/dL
   177 mg/dL
   3.3 mg/dL
   22 mEq/L
   4.5 mEq/L
   25 mg/dL
   104 mEq/L
   137 mEq/L
   26.6 %
   13.3 K/uL
        [image002.jpg]
                             [**2120-4-17**]  09:29 PM
                             [**2120-4-18**]  04:05 AM
                             [**2120-4-18**]  04:19 AM
                             [**2120-4-18**]  10:22 AM
                             [**2120-4-18**]  10:28 AM
                             [**2120-4-18**]  02:34 PM
                             [**2120-4-18**]  02:58 PM
                             [**2120-4-18**]  11:07 PM
                             [**2120-4-19**]  03:51 AM
                             [**2120-4-19**]  04:08 AM
   WBC
   13.5
   14.9
   13.3
   Hct
   27.2
   26.8
   26.6
   Plt
   115
   111
   114
   Cr
   2.3
   2.3
   2.6
   3.3
   TCO2
   25
   27
   25
   24
   26
   25
   Glucose
   188
   193
   180
   177
   Other labs: PT / PTT / INR:17.6/35.6/1.6, CK / CKMB / Troponin-T:60//,
   ALT / AST:43/148, Alk Phos / T Bili:187/2.5, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL, LDH:219 IU/L,
   Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   62M NASH, NSTEMI, trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridements, OSA, progressive ARF [**3-12**] hepatorenal
   syndrome on midodrine and albumin and volume overload originally
   brought to ICU with respiratory distress and bradycardia in the setting
   of volume overload and aspiration.
   # Respiratory Distress: Pt. remains intubated but doing well on SBT
   without significant change in pCO2. Seems more arousable now off
   sedation and with high dose lactulose. Patient has significant history
   of sleep apnea as well. Original respiratory distress likely volume
   overload as well as aspiration given history, CXR with bilateral
   infiltrate as well as volume overload from ascites, renal failure and
   oliguria.  On dapto, micafungin, zosyn.  Patient received lasix/diuril
   in attempt to diurese, however unsuccessful.  CVVH held on [**4-18**] due to
   the fact that his dialysis catheter became clotted.  On [**4-18**] he had an
   episode of vomiting, repeat CXR not markedly different, but concern for
   possibly evolving L opacity.  Right was improved.
   - continue ventilator today, consider extubation soon
   - continue  lactulose 60 mg q4h for encephelopathy
   - continue zosyn/dapto/micafungin renally dosed; h/o MRSA in lungs
   - continue famotidine
   - CVP <4 or rise in pressor requirement >0.1 indicates approaching
   euvolemia
 he is approaching this today and will discuss with renal
   drive
   # Acute renal failure now without Dialysis Access: Patient with large
   volume of ascites which is not helping his respiratory status and now
   with worsening renal function and decreasing urine output. Per
   hepatology and renal notes, he has suspected hepatorenal syndome and
   has been on albumin, octreotide and midodrine. However, there has been
   worsening on this regimen, so unclear if actually a different etiology.
   Acidemia mixed respiratory and metabolic, CNS appears comfortable at
   pCO2 at 50.
   - address line placement today, either tunneled or temporary, will
   discuss with renal
   - plan for HD tomorrow
   - renally dose medications
   - continue midodrine for HRS
 albumin stopped on [**4-13**]
   - f/u renal recs in AM
   - strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology.  Has had some
   increasing encephalopathy on the floor.  No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-13**] with 3 L removed and no evidence of SBP.  Albumin and nadolol DC
   on [**4-13**].
   - If IAB >3.5, consider parascentesis
   - increase lactulose as above, 60 mg q4h
   - continue rifaximin
   - continue midodrine
   - f/u liver recs
   # Mental Status: continues to be agitated at times.
    - re-order restraints
    - continue to hold sedating meds
   # Leukocytosis: WBC now 13.5 not on steroids, temps 96, hypotensive but
   bradycardic. Cannot rule out sepsis.
   - continue daptomycin, micafungin, pip-tazo
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
   Followed by ortho and will likely need s/p washout in the OR on [**4-15**].
   [**Month (only) 11**] need amputation in future.
   - Plan for bedside wound vac change tomorrow per ortho, OR on Monday
   - continue daptomycin, micafungin, pip-tazo
   - f/u sensitivities for C. glabrata
   - monitor wound cultures, blood cultures
   - surveillance blood cultures
   - f/u ortho recs
 wound vac changed per ortho
   - f/u ID recs
   # Gut Motility/Concern for Ileus: Moved bowels overnight. On reglan.
   - Continue Reglan
   - Give PO meds
   - Give lactulose as above
   - restart tube feeds today
   # Bradycardia
 originally thought likely d/t hypoxemia.  Intubated on
   [**4-13**] and pt. has had HR in 50s.  Nadolol held starting on [**4-13**].
   - octreotide was DC
   - continue to hold nadolol
   - continue to monitor
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today.
   - check QD HCTs
   - continue PPI
   - hold nadolol 20mg  in setting of bradycardia
   - transfusion goal of 21 or evidence of bleeding or hypoperfusion
   - will need follow up EGD
 will speak with liver regarding this
   # Thrombocytopenia: Stable, >100. Likely secondary to cirrhosis.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI
   - follow up [**Hospital 294**] Clinic recs  now that patient is intubated
   - increase ISS
   - will continue dose of lantus (8 units) today; increase tomorrow as
   needed
   # Hypertension: of note, will target peripheral BPs as A line appears
   to be giving diminished readings
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea: - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: intubated, extubation trial today if more alert, OG tube in
   place
   - NPO now except for meds
   - NGT to suction
   # PPX: H2 blocker, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
   # CODE: FULL CODE
   # CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11361**] c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**]
    - will clarify if [**Hospital1 **] is legal HCP
   # DISPO: ICU

2120-04-20 08:16:00 Physician Resident Progress Note
Chief Complaint: Respiratory Distress
   24 Hour Events:
   He remained intubated, arousable to voice, but does not follow
   commands.
   Pressors weaned off this morning.
   Axillary temp to 100.8 axillary this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2120-4-18**] 04:00 PM
   Daptomycin - [**2120-4-18**] 06:04 PM
   Micafungin - [**2120-4-19**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-19**] 05:30 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-4-19**] 01:14 PM
   Propofol - [**2120-4-19**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-20**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 100.8 ax
   Tcurrent: 37.7
C (99.8
   HR: 80 (65 - 91) bpm
   BP: 112/51(68) {73/43(59) - 147/73(87)} mmHg
   RR: 15 (12 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 1 (0 - 8)mmHg
   Total In:
                                                                  1,901 mL
                                                                    496 mL
   PO:
   TF:
                                                                    184 mL
                                                                    248 mL
   IVF:
                                                                    972 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  4,045 mL
                                                                  1,000 mL
   Urine:
                                                                     30 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,144 mL
                                                                   -504 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (462 - 692) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 30
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.35/49/122/27/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 407
   Physical Examination
   Gen:  intubated, sedated
   Pulm:  clear anteriorly to auscultation
   CV:  RRR
   Abd:  mild distention, +BS, soft
   Peripheral Vascular: pulses intact, RLE in exfix with vac drainage of
   minimal serous drainage
   Skin:  warm, dry
   Neurologic: Wakes up to voice, but does not follow commands, moves all
   extremities
   Labs / Radiology
   90 K/uL
   7.4 g/dL
   205 mg/dL
   3.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   26 mg/dL
   106 mEq/L
   144 mEq/L
   23.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2120-4-18**]  10:22 AM
                             [**2120-4-18**]  10:28 AM
                             [**2120-4-18**]  02:34 PM
                             [**2120-4-18**]  02:58 PM
                             [**2120-4-18**]  11:07 PM
                             [**2120-4-19**]  03:51 AM
                             [**2120-4-19**]  04:08 AM
                             [**2120-4-19**]  10:14 AM
                             [**2120-4-20**]  02:17 AM
                             [**2120-4-20**]  02:33 AM
   WBC
   14.9
   13.3
   10.2
   Hct
   26.8
   26.6
   23.8
   Plt
   111
   114
   90
   Cr
   2.3
   2.6
   3.3
   3.6
   TCO2
   25
   24
   26
   25
   25
   28
   Glucose
   193
   180
   177
   205
   Other labs: PT / PTT / INR:17.7/38.7/1.6, CK / CKMB / Troponin-T:60//,
   ALT / AST:38/102, Alk Phos / T Bili:202/2.2, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:3.3 g/dL, LDH:219 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   62M NASH, NSTEMI, trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridements, OSA, progressive ARF [**3-12**] hepatorenal
   syndrome on midodrine and albumin and volume overload originally
   brought to ICU with respiratory distress and bradycardia in the setting
   of volume overload and aspiration.
   # Respiratory Distress: Pt. remains intubated but doing well on SBT
   without significant change in pCO2. Seems more arousable now off
   sedation and with high dose lactulose, but not following commands.
   Patient has significant history of sleep apnea as well. Original
   respiratory distress likely volume overload as well as aspiration given
   history, CXR with bilateral infiltrate as well as volume overload from
   ascites, renal failure and oliguria.  On dapto, micafungin, zosyn.
   Patient received lasix/diuril in attempt to diurese, however
   unsuccessful.  CVVH held on [**4-18**] due to the fact that his dialysis
   catheter became clotted.  On [**4-18**] he had an episode of vomiting, repeat
   CXR not markedly different, but concern for possibly evolving L
   opacity.  Right was improved.  Goal is to extubate, but he continues
   not to follow commands.
   - continue ventilator today, consider extubation soon
   - continue  lactulose 60 mg q4h for encephelopathy
   - continue zosyn/dapto/micafungin renally dosed; h/o MRSA in lungs
   - continue famotidine
   - CVP <4 or rise in pressor requirement >0.1 indicates approaching
   euvolemia
 he is approaching this today and will discuss with renal
   drive
   # Acute renal failure now without Dialysis Access: Patient with large
   volume of ascites which is not helping his respiratory status and now
   with worsening renal function and decreasing urine output. Per
   hepatology and renal notes, he has suspected hepatorenal syndome and
   has been on albumin, octreotide and midodrine. However, there has been
   worsening on this regimen, so unclear if actually a different etiology.
   Acidemia mixed respiratory and metabolic, CNS appears comfortable at
   pCO2 at 50.
   - temporary line in place, plan for HD line on [**4-22**]
   - plan for HD tomorrow
   - renally dose medications
   - continue midodrine for HRS
 albumin stopped on [**4-13**]
   - f/u renal recs in AM
   - strict I&Os
   - tx as above
   # Fever:  Axillary temp to 100.8.  Infectious sources may be
   orthopedic, pulmonary, SBP, urinary, possibly thrombus.  He is broadly
   covered on antibiotics.  He did have an episode of vomiting 2 days ago
   which may put him at risk for aspiration PNA.  C. Diff was negative
   yesterday
   - f/u serial blood cultures and line tip culture
   - send UA/UC
   - repeat C. Diff
   - bedside ultrasound with diagnostic paracentesis
   #Cirrhosis: Not transplant candidate per hepatology.  Has had some
   increasing encephalopathy on the floor.  No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-13**] with 3 L removed and no evidence of SBP.  Albumin and nadolol DC
   on [**4-13**].
   - As above, will do diagnostic para
   - increase lactulose as above, 60 mg q4h
   - continue rifaximin
   - continue midodrine
   - f/u liver recs
   - f/u hep panel pending
   # Mental Status: continues to be agitated at times.
    - re-order restraints
    - continue to hold sedating meds
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
   Followed by ortho and will likely need s/p washout in the OR on [**4-15**].
   [**Month (only) 11**] need amputation in future.
   - Plan for bedside wound vac change tomorrow per ortho, OR on Monday
   - continue daptomycin, micafungin, pip-tazo
   - f/u sensitivities for C. glabrata
   - monitor wound cultures, blood cultures
   - surveillance blood cultures
   - f/u ortho recs
 wound vac changed per ortho
   - f/u ID recs
   # Gut Motility/Concern for Ileus: Moved bowels overnight. On reglan.
   - Continue Reglan
   - Give PO meds
   - Give lactulose as above
   - restart tube feeds today
   # Bradycardia
 originally thought likely d/t hypoxemia.  Intubated on
   [**4-13**] and pt. has had HR in 50s.  Nadolol held starting on [**4-13**].
   - octreotide was DC
   - continue to hold nadolol
   - continue to monitor
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today.
   - will check PM Hct
   - continue PPI
   - hold nadolol 20mg  in setting of bradycardia
   - transfusion goal of 21 or evidence of bleeding or hypoperfusion
   - will need follow up EGD
 will speak with liver regarding this
   # Thrombocytopenia: Stable, >100. Likely secondary to cirrhosis.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI
   - follow up [**Hospital 294**] Clinic recs  now that patient is intubated
   - increase ISS
   - will continue dose of lantus (8 units) today; increase tomorrow as
   needed
   # Hypertension: of note, will target peripheral BPs as A line appears
   to be giving diminished readings
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea: - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: intubated, extubation trial today if more alert, OG tube in
   place
   - NPO now except for meds
   - NGT to suction
   # PPX: H2 blocker, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
d and temporary line
   placed [**2120-4-19**]
   # CODE: FULL CODE
   # CONTACT: [**Name (NI) **] [**Name (NI) 11361**] (HCP) c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**]
   # DISPO: ICU

2120-04-21 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt febrile to 102, d/c
ed zosyn and started meropenem per ID recs.
   E.coli growing from sputum sample that is less sensitive to zosyn. Did
   diagnostic paracentesis, removed 2.2L, sent for cx, does not look like
   SBP. Resp status much improved, but still not following commands so
   unable to successfully extubate. Fevers defervesced overnight. Ortho
   planning to take to OR on Monday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2120-4-18**] 04:00 PM
   Daptomycin - [**2120-4-18**] 06:04 PM
   Micafungin - [**2120-4-20**] 09:03 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-20**] 03:33 PM
   Meropenem - [**2120-4-20**] 08:40 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-21**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38
C (100.4
   HR: 76 (74 - 87) bpm
   BP: 121/50(74) {100/44(60) - 154/66(89)} mmHg
   RR: 15 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 5 (0 - 5)mmHg
   Total In:
                                                                  2,480 mL
                                                                    537 mL
   PO:
   TF:
                                                                  1,105 mL
                                                                    420 mL
   IVF:
                                                                    444 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  5,400 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  2,200 mL
   Drains:
                                                                  2,200 mL
   Balance:
                                                                 -2,920 mL
                                                                    537 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 401 (401 - 802) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.31/50/129/25/-1
   Ve: 8.7 L/min
   PaO2 / FiO2: 430
   Physical Examination
   General: non-responsive to commands
   Heart: RRR
   Chest: coarse breath sounds bilaterally
   Abdomen: distended, NT
   Labs / Radiology
   70 K/uL
   7.4 g/dL
   243 mg/dL
   5.3 mg/dL
   25 mEq/L
   4.0 mEq/L
   42 mg/dL
   111 mEq/L
   147 mEq/L
   23.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2120-4-18**]  02:58 PM
                             [**2120-4-18**]  11:07 PM
                             [**2120-4-19**]  03:51 AM
                             [**2120-4-19**]  04:08 AM
                             [**2120-4-19**]  10:14 AM
                             [**2120-4-20**]  02:17 AM
                             [**2120-4-20**]  02:33 AM
                             [**2120-4-20**]  12:01 PM
                             [**2120-4-21**]  04:00 AM
                             [**2120-4-21**]  04:32 AM
   WBC
   13.3
   10.2
   10.0
   Hct
   26.6
   23.8
   24.3
   23.8
   Plt
   114
   90
   70
   Cr
   3.3
   3.6
   5.3
   TCO2
   24
   26
   25
   25
   28
   26
   Glucose
   177
   205
   243
   Other labs: PT / PTT / INR:17.5/36.5/1.6, CK / CKMB / Troponin-T:60//,
   ALT / AST:29/70, Alk Phos / T Bili:192/1.7, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:3.3 g/dL, LDH:204 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
                                                                [**2120-4-21**]
                                                                    04:50a
   _______________________________________________________________________
   NOT RECEIVED ON ICE
   Other Blood Chemistry:
   Ammonia: 38
                                                                [**2120-4-21**]
                                                                    04:32a
   _______________________________________________________________________
                                     pH
                                    7.31
                                    pCO2
                                     50
                                     pO2
                                     129
                                    HCO3
                                     26
                                   BaseXS
                                     -1
   Type:Art; Intubated; Vent:Spontaneous; Axillary=100.0;
   FiO2%:30; Rate:/19; TV:600; PEEP:5; Temp:38.9
                                                                [**2120-4-20**]
                                                                    02:33a
   _______________________________________________________________________
                                     pH
                                    7.35
                                    pCO2
                                     49
                                     pO2
                                     122
                                    HCO3
                                     28
                                   BaseXS
                                      0
   Type:Art; Intubated; FiO2%:30; Rate:/17; TV:580; PEEP:5; Temp:38.4
                                                                [**2120-4-20**]
                                                                     3:41p
   _______________________________________________________________________
   PERITONEAL
                                   Ascites
                                  Chemistry
                                    Protein
                                     2.2
                                    Glucose
                                     214
                                      LDH
                                     70
   PERITONEAL
     Ascites
                                      WBC
                                     100
                                      RBC
                                    6900
                                     Poly
                                     20
                                     Lymph
                                     29
                                     Mono
                                      4
                                      EOs
   Mesothe: 6
   Macroph: 41
[**2120-4-20**] 3:41 pm PERITONEAL FLUID PERITONEAL.
   GRAM STAIN (Final [**2120-4-20**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. NO MICROORGANISMS SEEN.
                                                                [**2120-4-20**]
                                                                     3:15p
   _______________________________________________________________________
   Source: Catheter
   Color
   Yellow
   Appear
   Cloudy
   SpecGr
   1.024
   pH
   6.5
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Mod
   Bld
   Lg
   Nitr
   Neg
   Prot
   150
   Glu
   Tr
   Ket
   Neg
   RBC
   [**12-28**]
   WBC
   [**7-18**]
   Bact
   Many
   Yeast
   None
   Epi
   [**4-12**]
   Amorph
   Mod
   Assessment and Plan
   62M NASH, NSTEMI, trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridements, OSA, progressive ARF [**3-12**] hepatorenal
   syndrome on midodrine and albumin and volume overload originally
   brought to ICU with respiratory distress and bradycardia in the setting
   of volume overload and aspiration.
   # Fever: Temps to [**Age over 90 **] yesterday but defervesced overnight. Infectious
   sources may be orthopedic, pulmonary, SBP, urinary, possibly thrombus.
   He is broadly covered on antibiotics. He did have an episode of
   vomiting 3 days ago which may put him at risk for aspiration PNA.  C.
   Diff negative. Ascitic fluid not appearing to be SBP. UA positive but
   insufficient sample for culture.
   - f/u serial blood cultures and line tip culture
   - repeat C. Diff
   # Respiratory Distress: Pt. remains intubated but doing well on SBT
   without significant change in pCO2. Seems more arousable now off
   sedation and with high dose lactulose, but not following commands.
   Patient has significant history of sleep apnea as well. Original
   respiratory distress likely volume overload as well as aspiration given
   history, CXR with bilateral infiltrate as well as volume overload from
   ascites, renal failure and oliguria.  On dapto, micafungin, zosyn.
   Patient received lasix/diuril in attempt to diurese, however
   unsuccessful.  CVVH held on [**4-18**] due to the fact that his dialysis
   catheter became clotted.  On [**4-18**] he had an episode of vomiting, repeat
   CXR not markedly different, but concern for possibly evolving L
   opacity.  Right was improved.  Goal is to extubate, but he continues
   not to follow commands.
   - continue ventilator today, consider extubation soon
   - continue  lactulose 60 mg q4h for encephelopathy
   - continue zosyn/dapto/micafungin renally dosed; h/o MRSA in lungs
   - continue famotidine
   - CVP <4 or rise in pressor requirement >0.1 indicates approaching
   euvolemia
 he is approaching this today and will discuss with renal
   drive
   # Acute renal failure now without Dialysis Access: Patient with large
   volume of ascites which is not helping his respiratory status and now
   with worsening renal function and decreasing urine output. Per
   hepatology and renal notes, he has suspected hepatorenal syndome and
   has been on albumin, octreotide and midodrine. However, there has been
   worsening on this regimen, so unclear if actually a different etiology.
   Acidemia mixed respiratory and metabolic, CNS appears comfortable at
   pCO2 at 50.
   - temporary line in place, plan for HD line on [**4-22**]
   - plan for HD Monday
   - renally dose medications
   - continue midodrine for HRS
 albumin stopped on [**4-13**]
   - f/u renal recs in AM
   - strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology. Has had some
   increasing encephalopathy on the floor. No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-13**] with 3 L removed and no evidence of SBP. Albumin and nadolol DC
   on [**4-13**].
   - As above, will do diagnostic para
   - increase lactulose as above, 60 mg q4h
   - continue rifaximin
   - continue midodrine
   - f/u liver recs
   - f/u hep panel pending
   # Mental Status: continues to be agitated at times.
    - re-order restraints
    - continue to hold sedating meds
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
   Followed by ortho and will likely need s/p washout in the OR on [**4-15**].
   [**Month (only) 11**] need amputation in future.
   - Plan for bedside wound vac change tomorrow per ortho, OR on Monday
   - continue daptomycin, micafungin, pip-tazo
   - f/u sensitivities for C. glabrata
   - monitor wound cultures, blood cultures
   - surveillance blood cultures
   - f/u ortho recs
 wound vac changed per ortho
   - f/u ID recs
   # Gut Motility/Concern for Ileus: Moved bowels overnight. On reglan.
   - Continue Reglan
   - Give PO meds
   - Give lactulose as above
   - restart tube feeds today
   # Bradycardia
 originally thought likely d/t hypoxemia.  Intubated on
   [**4-13**] and pt. has had HR in 50s.  Nadolol held starting on [**4-13**].
   - octreotide was DC
   - continue to hold nadolol
   - continue to monitor
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today.
   - will check PM Hct
   - continue PPI
   - hold nadolol 20mg  in setting of bradycardia
   - transfusion goal of 21 or evidence of bleeding or hypoperfusion
   - will need follow up EGD
 will speak with liver regarding this
   # Thrombocytopenia: Stable, >100. Likely secondary to cirrhosis.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI
   - follow up [**Hospital 294**] Clinic recs  now that patient is intubated
   - increase ISS
   - will continue dose of lantus (8 units) today; increase tomorrow as
   needed
   # Hypertension: of note, will target peripheral BPs as A line appears
   to be giving diminished readings
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea: - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: intubated, extubation trial today if more alert, OG tube in
   place
   - NPO now except for meds
   - NGT to suction
   # PPX: H2 blocker, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
d and temporary line
   placed [**2120-4-19**]
   # CODE: FULL CODE
   # CONTACT: [**Name (NI) **] [**Name (NI) 11361**] (HCP) c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-4-21**] 03:49 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-22 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Afebrile most of the day, but low grade temps overnight.  Chnaged to
   meropenem over the weekend and ID recommends changing Dapto to
   Linezolid if he continues to spike temps as Linezolid would have better
   lung coverage.
   Mental status remained non-responsive to commands
   Increased ISS, FS remained in mid-200s
   Na 147, increased free water flushes slightly
   Based on low grade temps, spoke with renal and will not do the HD line
   today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-20**] 03:33 PM
   Micafungin - [**2120-4-21**] 08:13 AM
   Daptomycin - [**2120-4-21**] 04:27 PM
   Meropenem - [**2120-4-21**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-4-21**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2120-4-21**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-22**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98
   HR: 60 (60 - 84) bpm
   BP: 101/46(64) {76/46(64) - 144/86(100)} mmHg
   RR: 15 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 12 (3 - 12)mmHg
   Total In:
                                                                  2,777 mL
                                                                    398 mL
   PO:
   TF:
                                                                  1,630 mL
                                                                    185 mL
   IVF:
                                                                    446 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                  1,000 mL
   Urine:
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  1,927 mL
                                                                   -602 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 508 (407 - 665) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.32/48/128/24/-1
   Ve: 8 L/min
   PaO2 / FiO2: 427
   Physical Examination
   Gen: NAD, becomes slightly agitated with exam
   Pulm:  CTA anteriorly
   CV: RRR, 2/6 systolic murmur
   Abd:  + BS, soft, dressing intact over para site
   Peripheral Vascular: pulses intake, RLE with ex-fix intact, no
   drainage, stable appearing venous stasis changes
   Skin:  warm, dry
   Neurologic: wakes up with exam, moves all extremities, not following
   commands
   Labs / Radiology
   70 K/uL
   7.4 g/dL
   270 mg/dL
   6.6 mg/dL
   24 mEq/L
   3.9 mEq/L
   56 mg/dL
   113 mEq/L
   150 mEq/L
   24.1 %
   9.1 K/uL
        [image002.jpg]
                             [**2120-4-19**]  04:08 AM
                             [**2120-4-19**]  10:14 AM
                             [**2120-4-20**]  02:17 AM
                             [**2120-4-20**]  02:33 AM
                             [**2120-4-20**]  12:01 PM
                             [**2120-4-21**]  04:00 AM
                             [**2120-4-21**]  04:32 AM
                             [**2120-4-21**]  03:40 PM
                             [**2120-4-22**]  04:00 AM
                             [**2120-4-22**]  04:27 AM
   WBC
   10.2
   10.0
   10.5
   9.1
   Hct
   23.8
   24.3
   23.8
   24.9
   24.1
   Plt
   90
   70
   71
   70
   Cr
   3.6
   5.3
   5.9
   6.6
   TCO2
   25
   25
   28
   26
   26
   Glucose
   [**Telephone/Fax (3) 11479**]70
   Other labs: PT / PTT / INR:16.3/34.2/1.4, CK / CKMB / Troponin-T:60//,
   ALT / AST:25/55, Alk Phos / T Bili:212/1.5, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:3.3 g/dL, LDH:204 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   62M NASH, NSTEMI, trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridements, OSA, progressive ARF [**3-12**] hepatorenal
   syndrome on midodrine and albumin and volume overload originally
   brought to ICU with respiratory distress and bradycardia in the setting
   of volume overload and aspiration.
   .
   # Mental Status: continues to be agitated at times. [**Month (only) 11**] be secondary to
   pain. Perhaps a component of opiate withdrawal (on dilaudid PO at home)
    - restraints
   -  continuing lactulose; ammonia level low
   - agitation: following OR today, will try low-dose propofol for
   sedation
   .
   # Fever: Temps to 102 over weekend but defervesced overnight.
   Infectious sources may be orthopedic, pulmonary, SBP, urinary, possibly
   thrombus. He is broadly covered on antibiotics. He did have an episode
   of vomiting 3 days ago which may put him at risk for aspiration PNA.
   C. Diff negative. Ascitic fluid not appearing to be SBP. UA positive
   but insufficient sample for culture.
   - f/u serial blood cultures and line tip culture
   - repeat C. Diff
   - Continuing Dapto/[**Last Name (un) 1540**]/Mica
   - ID had recommended switching from daptomycin to linezolid; will
   consider switching if spikes again.
   # Respiratory Distress: Pt respiratory status significantly improved,
   tolerating SBTs well, however unable to extubate due to concerns over
   mental status and ability to protect his own airway
   - continue ventilator today, consider extubation soon pending MS
   improvement
   - continue  lactulose 60 mg q4h for encephelopathy
   - continue [**Last Name (un) **]/dapto/micafungin renally dosed; h/o MRSA in lungs
   - treating for e.coli in sputum with d/c of zosyn and addition of
   meropenem
   - appreciate ID recs
   - continue famotidine
   - CVP <4 or rise in pressor requirement >0.1 indicates approaching
   euvolemia
 he is approaching this today and will discuss with renal
   drive
   .
   # Acute renal failure: did not tolerate HD well today.
   - F/u with renal about trying to dialyze again today.
   - [**Month (only) 11**] consider line holiday after dialysis.
   - Pt is ordered for tunneled HD line placement for today, if he is
   afebrile and blood cx remain negative
   - If unable to place tunneled line will dialyze through temporary HD
   line until able to place tunneled line
   - renally dose medications
   - continue midodrine for HRS
 albumin stopped on [**4-13**]
   - f/u renal recs in AM
   - strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology. Has had some
   increasing encephalopathy on the floor. No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-20**] with 2.2 L removed and no evidence of SBP. Albumin and nadolol
   DC
d on
   -Diagnostic para performed yesterday
   - increase lactulose as above, 60 mg q4h; was held as NPO. Will resume
   once returns from OR after checking residuals.
   - continue rifaximin
   - continue midodrine
   - f/u liver recs
   - f/u hep panel pending
   .
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
   - OR today, f/u with ortho recs
   - continue daptomycin, micafungin, meropenem
   - f/u sensitivities for C. glabrata
   - monitor wound cultures, blood cultures
   - surveillance blood cultures
   - f/u ortho recs
 wound vac changed per ortho
   - f/u ID recs
   .
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today.
   - continue PPI
   - hold nadolol 20mg  in setting of bradycardia
   # Hypernatremia
   - Increase free water boluses on return from OR (150)
   # Thrombocytopenia: Platelets trending down; suspect due to ESLD.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI, blood sugars in 200s.
   - follow up [**Hospital 294**] Clinic recs
   - increase ISS today
   # Hypertension: of note, will target peripheral BPs as A line appears
   to be giving diminished readings
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea: - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: intubated, OG tube in place
   - NPO now except for meds; change after returning from OR.
   - NGT to suction
   - continuing tube feeds
   # PPX: H2 blocker, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
d and temporary line
   placed [**2120-4-19**]
   # CODE: FULL CODE
   # CONTACT: [**Name (NI) **] [**Name (NI) 11361**] (HCP) c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**] ;
   confirmed as HCP
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-22 10:57:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis, Hepatic encephalopathy, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains agitated but not following commands
   Dropped BP with initiation of HD this AM
   24 Hour Events:
 STOOL CULTURE - At [**2120-4-22**] 02:15 AM
   stool sent for c. diff
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-20**] 03:33 PM
   Micafungin - [**2120-4-21**] 08:13 AM
   Daptomycin - [**2120-4-21**] 04:27 PM
   Meropenem - [**2120-4-21**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Psychiatric / Sleep: Agitated
   Pain: [**2-10**] Minimal
   Flowsheet Data as of  [**2120-4-22**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.4
C (97.6
   HR: 71 (60 - 84) bpm
   BP: 102/51(64) {102/51(64) - 102/51(64)} mmHg
   RR: 13 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.2 kg (admission): 153.7 kg
   Height: 72 Inch
   CVP: 12 (5 - 12)mmHg
   Total In:
                                                                  2,777 mL
                                                                    487 mL
   PO:
   TF:
                                                                  1,630 mL
                                                                    185 mL
   IVF:
                                                                    446 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                  1,000 mL
   Urine:
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  1,927 mL
                                                                   -513 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 526 (407 - 665) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.32/48/128/24/-1
   Ve: 10.7 L/min
   PaO2 / FiO2: 427
   Physical Examination
   General Appearance: agitated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, L VAC dressing in
   place
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   70 K/uL
   270 mg/dL
   6.6 mg/dL
   24 mEq/L
   3.9 mEq/L
   56 mg/dL
   113 mEq/L
   150 mEq/L
   24.1 %
   9.1 K/uL
        [image002.jpg]
                             [**2120-4-19**]  04:08 AM
                             [**2120-4-19**]  10:14 AM
                             [**2120-4-20**]  02:17 AM
                             [**2120-4-20**]  02:33 AM
                             [**2120-4-20**]  12:01 PM
                             [**2120-4-21**]  04:00 AM
                             [**2120-4-21**]  04:32 AM
                             [**2120-4-21**]  03:40 PM
                             [**2120-4-22**]  04:00 AM
                             [**2120-4-22**]  04:27 AM
   WBC
   10.2
   10.0
   10.5
   9.1
   Hct
   23.8
   24.3
   23.8
   24.9
   24.1
   Plt
   90
   70
   71
   70
   Cr
   3.6
   5.3
   5.9
   6.6
   TCO2
   25
   25
   28
   26
   26
   Glucose
   [**Telephone/Fax (3) 11479**]70
   Other labs: PT / PTT / INR:16.3/34.2/1.4, CK / CKMB / Troponin-T:60//,
   ALT / AST:25/55, Alk Phos / T Bili:212/1.5, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:3.3 g/dL, LDH:204 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 ANXIETY
 ORTHOPEDIC DEVICE INFECTION (HARDWARE INFECTION, PROSTHETIC JOINT,
   ORTHOPAEDIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, OTHER
   62M NASH c/b cirrhosis, varices p/w infected RLE s/p trimalleolar fx /
   osteo with ex-fix
 developed respiratory distress in the setting of
   ARF and restriction from massive ascites. Ongoing encephalopathy.
   Cirrhosis/Encephalopathy: Cont lactulose, rifaxamin
   Foot infection: back to OR today for washout by ortho
   ARF: Did not tolerate HD today --> retry timing per renal
   Respiratory Failure: Ideally would extubate today since he is more
   awkae, though still agitated and not following commands.  However, will
   wait until after trip to OR and likely aim for tomorrow.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2120-04-23 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Was able to be extubated successfully yesterday.
   Ortho unable to take him to the OR due to weather related challenges.
   Dry this morning with Sodium 150, free water deficit of 5L, started on
   D5W at 150.
   - Pt. bit through ETT cuff and was subsequently extubated!!
   - Unable to go to OR today so will go tomorrow
   - Unable to tolerate HD d/t hypotension - will try again tomorrow
   PLAN FOR TODAY:
   1.       OR today for washout / close
   2.       HD afternoon
   3.       Pull HD line
   4.       Tunneled HD line tomorrow (IR) tomorrow morning
   5.       HD tomorrow afternoon
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-20**] 03:33 PM
   Daptomycin - [**2120-4-21**] 04:27 PM
   Meropenem - [**2120-4-21**] 08:00 PM
   Micafungin - [**2120-4-22**] 10:42 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2120-4-22**] 11:20 AM
   Famotidine (Pepcid) - [**2120-4-22**] 02:11 PM
   Haloperidol (Haldol) - [**2120-4-22**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-23**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 73 (63 - 83) bpm
   BP: 116/52(73) {84/37(50) - 152/96(113)} mmHg
   RR: 17 (13 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.2 kg (admission): 153.7 kg
   Height: 72 Inch
    CVP: 5 (-9 - 17)mmHg
   Total In:
                                                                  1,412 mL
                                                                    245 mL
   PO:
   TF:
                                                                    427 mL
                                                                     22 mL
   IVF:
                                                                    425 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                  1,000 mL
   Urine:
   NG:
   Stool:
                                                                  1,000 mL
                                                                  1,000 mL
   Drains:
   Balance:
                                                                   -308 mL
                                                                   -755 mL
   [image002.jpg]
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 324 (324 - 535) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.30/55/90.[**Numeric Identifier 433**]/25/0
   Ve: 4.2 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Gen: NAD, alert, follows simple commands, becomes slightly agitated
   with exam
   Pulm:  CTA anteriorly, but with coarse UA sounds
   CV: RRR, 2/6 systolic murmur
   Abd:  + BS, soft, dressing intact over para site
   Peripheral Vascular: pulses intake, RLE with ex-fix intact, no
   drainage, stable appearing venous stasis changes
   Skin:  warm, dry
   Neurologic: wakes up with exam, moves all extremities, not following
   commands
   Labs / Radiology
   77 K/uL
   7.4 g/dL
   162 mg/dL
   6.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   60 mg/dL
   114 mEq/L
   151 mEq/L
   25.5 %
   9.1 K/uL
        [image004.jpg]
                             [**2120-4-20**]  12:01 PM
                             [**2120-4-21**]  04:00 AM
                             [**2120-4-21**]  04:32 AM
                             [**2120-4-21**]  03:40 PM
                             [**2120-4-22**]  04:00 AM
                             [**2120-4-22**]  04:27 AM
                             [**2120-4-22**]  04:25 PM
                             [**2120-4-22**]  05:34 PM
                             [**2120-4-23**]  02:02 AM
                             [**2120-4-23**]  02:14 AM
   WBC
   10.0
   10.5
   9.1
   10.4
   9.1
   Hct
   24.3
   23.8
   24.9
   24.1
   24.5
   25.5
   Plt
   70
   71
   70
   68
   77
   Cr
   5.3
   5.9
   6.6
   6.4
   6.8
   TCO2
   26
   26
   26
   28
   Glucose
   243
   266
   270
   142
   162
   Other labs: PT / PTT / INR:16.9/30.3/1.5, CK / CKMB / Troponin-T:60//,
   ALT / AST:22/56, Alk Phos / T Bili:207/1.5, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:3.0 g/dL, LDH:209 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.8 mg/dL, PO4:3.8 mg/dL
                                                                [**2120-4-23**]
                                                                    02:14a
   _______________________________________________________________________
                                     pH
                                    7.30
                                    pCO2
                                     55
                                     pO2
                                     90
                                    HCO3
                                     28
                                   BaseXS
                                      0
   Type:Art; Not Intubated; Temp:38.1
                                                                [**2120-4-23**]
                                                                    02:02a
   _______________________________________________________________________
   Source: Line-A-line
                                     151
                               [image006.gif]
                                     114
                               [image006.gif]
                                     60
   [image008.gif]
   162
                                                                   AGap=16
   [image009.gif]
   3.9
                               [image006.gif]
                                     25
                               [image006.gif]
                                     6.8
   [image011.gif]
   Comments:
   Na: Notified [**Last Name (NamePattern4) 11495**] @ 0258 [**2120-4-23**]
   Glucose: If Fasting, 70-100 Normal, >125 Provisional Diabetes
   Ca: 9.3 Mg: 2.8 P: 3.8
   ALT: 22
   AP: 207
   Tbili: 1.5
   Alb: 3.0
   AST: 56
   LDH: 209
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip:
   Source: Line-A-line
   97
                                                                       9.1
                                                            [image011.gif]
                                     7.4
   [image008.gif]
   77
                 [image012.gif]
   [image008.gif]
                                    25.5
   [image011.gif]
   Source: [**Name (NI) **]
   PT: 16.9
   PTT: 30.3
   INR: 1.5
                                                                [**2120-4-22**]
                                                                     5:34p
   _______________________________________________________________________
                                     pH
                                    7.39
                                    pCO2
                                     42
                                     pO2
                                     130
                                    HCO3
                                     26
                                   BaseXS
                                      0
   Type:Art; Not Intubated; Nebulizer; FiO2%:35; Rate:/15; Temp:37.7
   Comments:
   Temp: 97.8 Ax
[**2120-4-15**] 4:15 pm SWAB      RIGHT  ANKLE WOUND.
   GRAM STAIN (Final [**2120-4-15**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   WOUND CULTURE (Final [**2120-4-19**]):
      Due to mixed bacterial types (>=3) an abbreviated workup is
      performed; P.aeruginosa, S.aureus and beta strep. are reported if
      present. Susceptibility will be performed on P.aeruginosa and
      S.aureus if sparse growth or greater..
      [**Female First Name (un) **] (TORULOPSIS) GLABRATA.    SPARSE GROWTH.
         IDENTIFICATION PERFORMED ON CULTURE # 292-8678A [**2120-4-15**].
   FUNGAL CULTURE (Preliminary):
      A swab is not the optimal specimen for recovery of mycobacteria or
      filamentous fungi.  A negative result should be interpreted with
      caution.  Whenever possible tissue biopsy or aspirated fluid should
      be submitted.
      [**Female First Name (un) **] (TORULOPSIS) GLABRATA.
         IDENTIFICATION PERFORMED ON CULTURE # [**Numeric Identifier 11496**] [**2120-4-15**].
   ANAEROBIC CULTURE (Final [**2120-4-19**]):    NO ANAEROBES ISOLATED.
   Assessment and Plan
   62M NASH, NSTEMI, trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridements, OSA, progressive ARF [**3-12**] hepatorenal
   syndrome on midodrine and albumin and volume overload originally
   brought to ICU with respiratory distress and bradycardia in the setting
   of volume overload and aspiration.
   .
   # Mental Status: continues to be agitated at times. [**Month (only) 11**] be secondary to
   pain. Perhaps a component of opiate withdrawal (on dilaudid PO at home)
    - restraints
   -  continuing lactulose; ammonia level low
   - avoid sedating medications
   .
   # Fever: Resolved. Temps to 102 over weekend but defervesced overnight.
   Infectious sources may be orthopedic, pulmonary, SBP, urinary, possibly
   thrombus. He is broadly covered on antibiotics. He did have an episode
   of vomiting 3 days ago which may put him at risk for aspiration PNA.
   C. Diff negative. Ascitic fluid not appearing to be SBP. UA positive
   but insufficient sample for culture.
   - f/u serial blood cultures and line tip culture
   - repeat C. Diff
   - Continuing Dapto/[**Last Name (un) 1540**]/Mica
   - ID had recommended switching from daptomycin to linezolid; will
   consider switching if spikes again.
   .
   # Respiratory Distress: Pt respiratory status significantly improved,
   tolerating SBTs well, however unable to extubate due to concerns over
   mental status and ability to protect his own airway
   - Pt now extubated
   - continue  lactulose 60 mg q4h for encephelopathy
   - continue [**Last Name (un) **]/dapto/micafungin renally dosed; h/o MRSA in lungs
   - treating for e.coli in sputum with d/c of zosyn and addition of
   meropenem
   - appreciate ID recs
   - continue famotidine
   - CVP <4 or rise in pressor requirement >0.1 indicates approaching
   euvolemia
 he is approaching this today and will discuss with renal
   drive
   .
   # Hypernatremia: Dry this morning with Sodium 150, free water deficit
   of 5L, started on D5W at 150, correct 3L now
   - Will give 3L D5w and discuss I/O goal w/ renal
   .
   # Acute renal failure: did not tolerate HD well today.
   - F/u with renal about trying to dialyze again today.
   - [**Month (only) 11**] consider line holiday after dialysis.
   - Pt is ordered for tunneled HD line placement for today, if he is
   afebrile and blood cx remain negative
   - If unable to place tunneled line will dialyze through temporary HD
   line until able to place tunneled line
   - renally dose medications
   - continue midodrine for HRS
 albumin stopped on [**4-13**]
   - f/u renal recs in AM
   - strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology. Has had some
   increasing encephalopathy on the floor. No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-20**] with 2.2 L removed and no evidence of SBP. Albumin and nadolol
   DC
d on presentation.
   - f/u paracentesis
   - increase lactulose as above, 60 mg q4h; was held as NPO. Will resume
   once returns from OR after checking residuals.
   - continue rifaximin
   - continue midodrine
   - f/u liver recs
   - f/u hep panel pending
   .
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
   -Wound vac changed today. Not going to OR today per ortho
   -Q3d vac changes
   - continue daptomycin, micafungin, meropenem
   - f/u sensitivities for C. glabrata
   - monitor wound cultures, blood cultures
   - surveillance blood cultures
   - f/u ortho recs
 wound vac changed per ortho
   - f/u ID recs
   .
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today.
   - continue PPI
   - hold nadolol 20mg  in setting of Bradycardia
   - Will transfuse 1 unit PRBCs at HD
   # Hypernatremia
   - Increase free water boluses on return from OR (150)
   # Thrombocytopenia: Platelets trending down; suspect due to ESLD.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI, blood sugars in 200s.
   - follow up [**Hospital 294**] Clinic recs
   - increase ISS today
   # Hypertension: of note, will target peripheral BPs as A line appears
   to be giving diminished readings
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea: - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: intubated, OG tube in place
   - NPO now except for meds; change after returning from OR.
   - NGT to suction
   - continuing tube feeds
   # PPX: H2 blocker, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
d and temporary line
   placed [**2120-4-19**]
   # CODE: FULL CODE
   # CONTACT: [**Name (NI) **] [**Name (NI) 11361**] (HCP) c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**] ;
   confirmed as HCP
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-23 11:44:00 Physician Attending Progress Note
Chief Complaint: Hepatic encephalopathy, Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More awake today but not conversive or oriented yet
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2120-4-22**] 01:40 PM --> Extubated
   yesterday in setting of increasing agitation, biting through tube.  Did
   well post-extubation with no respiratory distress overnight
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-4-20**] 03:33 PM
   Daptomycin - [**2120-4-21**] 04:27 PM
   Meropenem - [**2120-4-21**] 08:00 PM
   Micafungin - [**2120-4-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-4-22**] 02:11 PM
   Haloperidol (Haldol) - [**2120-4-22**] 11:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-4-23**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 72 (63 - 80) bpm
   BP: 138/60(86) {84/37(50) - 152/96(315)} mmHg
   RR: 16 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.2 kg (admission): 153.7 kg
   Height: 72 Inch
   CVP: 5 (-9 - 17)mmHg
   Total In:
                                                                  1,412 mL
                                                                    426 mL
   PO:
   TF:
                                                                    427 mL
                                                                     22 mL
   IVF:
                                                                    425 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                  1,700 mL
   Urine:
   NG:
   Stool:
                                                                  1,000 mL
                                                                  1,700 mL
   Drains:
   Balance:
                                                                   -308 mL
                                                                 -1,274 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 324 (324 - 324) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.30/55/90.[**Numeric Identifier 433**]/25/0
   Ve: 4.2 L/min
   PaO2 / FiO2: 257
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Left lower extremity edema: Absent, R leg with dressing in
   place
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   77 K/uL
   162 mg/dL
   6.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   60 mg/dL
   114 mEq/L
   151 mEq/L
   25.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2120-4-20**]  12:01 PM
                             [**2120-4-21**]  04:00 AM
                             [**2120-4-21**]  04:32 AM
                             [**2120-4-21**]  03:40 PM
                             [**2120-4-22**]  04:00 AM
                             [**2120-4-22**]  04:27 AM
                             [**2120-4-22**]  04:25 PM
                             [**2120-4-22**]  05:34 PM
                             [**2120-4-23**]  02:02 AM
                             [**2120-4-23**]  02:14 AM
   WBC
   10.0
   10.5
   9.1
   10.4
   9.1
   Hct
   24.3
   23.8
   24.9
   24.1
   24.5
   25.5
   Plt
   70
   71
   70
   68
   77
   Cr
   5.3
   5.9
   6.6
   6.4
   6.8
   TCO2
   26
   26
   26
   28
   Glucose
   243
   266
   270
   142
   162
   Other labs: PT / PTT / INR:16.9/30.3/1.5, CK / CKMB / Troponin-T:60//,
   ALT / AST:22/56, Alk Phos / T Bili:207/1.5, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:3.0 g/dL, LDH:209 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 ANXIETY
 ORTHOPEDIC DEVICE INFECTION (HARDWARE INFECTION, PROSTHETIC JOINT,
   ORTHOPAEDIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, OTHER
   62M NASH c/b cirrhosis, varices p/w infected RLE s/p trimalleolar fx /
   osteo with ex-fix
 developed respiratory distress in the setting of
   ARF and restriction from massive ascites. Ongoing encephalopathy.  Now
   extubated.
   Cirrhosis/Encephalopathy: Cont lactulose, rifaxamin down NG tube
   Foot infection: did not go to OR yesterday --> VAC change today.
   Fevers down.  Cont [**Last Name (un) **]/dapto/micafungin.
   ARF: Retry at HD today with close blood pressure monitoring.  Pull temp
   HD line after HD today, tunneled line tomorrow by IR
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2120-04-24 07:10:00 Physician Resident Progress Note
Chief Complaint:  Respiratory Distress, Renal Failure
   24 Hour Events:
   No major events overnight, was dialyzed yesterday.  His mental status
   remains very disoriented, not really following commands.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2120-4-21**] 04:27 PM
   Meropenem - [**2120-4-21**] 08:00 PM
   Micafungin - [**2120-4-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-24**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 71 (59 - 74) bpm
   BP: 118/54(75) {81/40(53) - 160/154(330)} mmHg
   RR: 20 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.2 kg (admission): 153.7 kg
   Height: 72 Inch
             Total In:
                                                                  3,259 mL
                                                                    980 mL
   PO:
             TF:
                                                                    240 mL
                                                                     82 mL
   IVF:
                                                                  2,129 mL
                                                                    898 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,700 mL
                                                                  1,000 mL
   Urine:
   NG:
   Stool:
                                                                  1,700 mL
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  1,559 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.36/45/86/25/0
   PaO2 / FiO2: 246
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   76 K/uL
   8.4 g/dL
   197 mg/dL
   5.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   42 mg/dL
   107 mEq/L
   145 mEq/L
   26.9 %
   10.2 K/uL
        [image002.jpg]
                             [**2120-4-21**]  04:32 AM
                             [**2120-4-21**]  03:40 PM
                             [**2120-4-22**]  04:00 AM
                             [**2120-4-22**]  04:27 AM
                             [**2120-4-22**]  04:25 PM
                             [**2120-4-22**]  05:34 PM
                             [**2120-4-23**]  02:02 AM
                             [**2120-4-23**]  02:14 AM
                             [**2120-4-23**]  02:53 PM
                             [**2120-4-24**]  02:59 AM
   WBC
   10.5
   9.1
   10.4
   9.1
   10.2
   Hct
   24.9
   24.1
   24.5
   25.5
   26.9
   Plt
   71
   70
   68
   77
   76
   Cr
   5.9
   6.6
   6.4
   6.8
   5.7
   TCO2
   26
   26
   26
   28
   26
   Glucose
   266
   270
   142
   162
   197
   Other labs: PT / PTT / INR:17.1/33.1/1.5, CK / CKMB / Troponin-T:28//,
   ALT / AST:23/73, Alk Phos / T Bili:220/1.8, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:3.0 g/dL, LDH:226 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   62M NASH, NSTEMI, trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridements, OSA, progressive ARF [**3-12**] hepatorenal
   syndrome on midodrine and albumin and volume overload originally
   brought to ICU with respiratory distress and bradycardia in the setting
   of volume overload and aspiration.
   .
   # Mental Status: continues to be agitated at times. [**Month (only) 11**] be secondary to
   pain. Perhaps a component of opiate withdrawal (on dilaudid PO at home)
    - restraints
   -  continuing lactulose; ammonia level low
   - avoid sedating medications
   .
   # Fever: Resolved. Temps to 102 over weekend but defervesced overnight.
   Infectious sources may be orthopedic, pulmonary, SBP, urinary, possibly
   thrombus. He is broadly covered on antibiotics. He did have an episode
   of vomiting 3 days ago which may put him at risk for aspiration PNA.
   C. Diff negative. Ascitic fluid not appearing to be SBP. UA positive
   but insufficient sample for culture.
   - f/u serial blood cultures and line tip culture
   - repeat C. Diff
   - Continuing Dapto/[**Last Name (un) 1540**]/Mica
   - ID had recommended switching from daptomycin to linezolid; will
   consider switching if spikes again.
   .
   # Respiratory Distress: Pt respiratory status significantly improved,
   tolerating SBTs well, however unable to extubate due to concerns over
   mental status and ability to protect his own airway
   - Pt now extubated
   - continue  lactulose 60 mg q4h for encephelopathy
   - continue [**Last Name (un) **]/dapto/micafungin renally dosed; h/o MRSA in lungs
   - treating for e.coli in sputum with d/c of zosyn and addition of
   meropenem
   - appreciate ID recs
   - continue famotidine
   - CVP <4 or rise in pressor requirement >0.1 indicates approaching
   euvolemia
 he is approaching this today and will discuss with renal
   drive
   .
   # Hypernatremia: Dry this morning with Sodium 150, free water deficit
   of 5L, started on D5W at 150, correct 3L now
   - Will give 3L D5w and discuss I/O goal w/ renal
   .
   # Acute renal failure: did not tolerate HD well today.
   - F/u with renal about trying to dialyze again today.
   - [**Month (only) 11**] consider line holiday after dialysis.
   - Pt is ordered for tunneled HD line placement for today, if he is
   afebrile and blood cx remain negative
   - If unable to place tunneled line will dialyze through temporary HD
   line until able to place tunneled line
   - renally dose medications
   - continue midodrine for HRS
 albumin stopped on [**4-13**]
   - f/u renal recs in AM
   - strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology. Has had some
   increasing encephalopathy on the floor. No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-20**] with 2.2 L removed and no evidence of SBP. Albumin and nadolol
   DC
d on presentation.
   - f/u paracentesis
   - increase lactulose as above, 60 mg q4h; was held as NPO. Will resume
   once returns from OR after checking residuals.
   - continue rifaximin
   - continue midodrine
   - f/u liver recs
   - f/u hep panel pending
   .
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
   -Wound vac changed today. Not going to OR today per ortho
   -Q3d vac changes
   - continue daptomycin, micafungin, meropenem
   - f/u sensitivities for C. glabrata
   - monitor wound cultures, blood cultures
   - surveillance blood cultures
   - f/u ortho recs
 wound vac changed per ortho
   - f/u ID recs
   .
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today.
   - continue PPI
   - hold nadolol 20mg  in setting of Bradycardia
   - Will transfuse 1 unit PRBCs at HD
   # Hypernatremia
   - Increase free water boluses on return from OR (150)
   # Thrombocytopenia: Platelets trending down; suspect due to ESLD.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI, blood sugars in 200s.
   - follow up [**Hospital 294**] Clinic recs
   - increase ISS today
   # Hypertension: of note, will target peripheral BPs as A line appears
   to be giving diminished readings
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea: - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: intubated, OG tube in place
   - NPO now except for meds; change after returning from OR.
   - NGT to suction
   - continuing tube feeds
   # PPX: H2 blocker, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
d and temporary line
   placed [**2120-4-19**]
   # CODE: FULL CODE
   # CONTACT: [**Name (NI) **] [**Name (NI) 11361**] (HCP) c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**] ;
   confirmed as HCP
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-24 10:16:00 Physician Attending Progress Note
Chief Complaint: Hepatic encephalopathy, Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still not verbal or attentive this AM but awake
   24 Hour Events:
   HD yesterday
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2120-4-21**] 04:27 PM
   Meropenem - [**2120-4-21**] 08:00 PM
   Micafungin - [**2120-4-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-4-24**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 67 (59 - 74) bpm
   BP: 123/49(74) {81/40(53) - 160/154(330)} mmHg
   RR: 16 (15 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.2 kg (admission): 153.7 kg
   Height: 72 Inch
             Total In:
                                                                  3,259 mL
                                                                  1,100 mL
   PO:
             TF:
                                                                    240 mL
                                                                     82 mL
   IVF:
                                                                  2,129 mL
                                                                    898 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,700 mL
                                                                  1,000 mL
   Urine:
   NG:
   Stool:
                                                                  1,700 mL
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  1,559 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.36/45/86/25/0
   PaO2 / FiO2: 246
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, R boot in place
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   76 K/uL
   197 mg/dL
   5.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   42 mg/dL
   107 mEq/L
   145 mEq/L
   26.9 %
   10.2 K/uL
        [image002.jpg]
                             [**2120-4-21**]  04:32 AM
                             [**2120-4-21**]  03:40 PM
                             [**2120-4-22**]  04:00 AM
                             [**2120-4-22**]  04:27 AM
                             [**2120-4-22**]  04:25 PM
                             [**2120-4-22**]  05:34 PM
                             [**2120-4-23**]  02:02 AM
                             [**2120-4-23**]  02:14 AM
                             [**2120-4-23**]  02:53 PM
                             [**2120-4-24**]  02:59 AM
   WBC
   10.5
   9.1
   10.4
   9.1
   10.2
   Hct
   24.9
   24.1
   24.5
   25.5
   26.9
   Plt
   71
   70
   68
   77
   76
   Cr
   5.9
   6.6
   6.4
   6.8
   5.7
   TCO2
   26
   26
   26
   28
   26
   Glucose
   266
   270
   142
   162
   197
   Other labs: PT / PTT / INR:17.1/33.1/1.5, CK / CKMB / Troponin-T:28//,
   ALT / AST:23/73, Alk Phos / T Bili:220/1.8, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:3.0 g/dL, LDH:226 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 ANXIETY
 ORTHOPEDIC DEVICE INFECTION (HARDWARE INFECTION, PROSTHETIC JOINT,
   ORTHOPAEDIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, OTHER
   62M NASH c/b cirrhosis, varices p/w infected RLE s/p trimalleolar fx /
   osteo with ex-fix
 developed respiratory distress in the setting of
   ARF and restriction from massive ascites. Ongoing encephalopathy.  Now
   extubated.
   Cirrhosis/Encephalopathy: Cont lactulose, rifaxamin down NG tube.  Will
   decrease frequency of lactulose given large stool output
   Foot infection: Cont dapto/micafungin.  [**Last Name (un) 1540**] D/C'd.  VAC changed
   yesterday
   ARF: Tunneled IR line today followed by another HD session
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2120-04-25 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-24**]
   IR placed new HD line on right
   noted some pus at site of previous line, sent for culture
   Consults:
   -Renal: euvolemic, no UF today
   -[**Last Name (un) 294**]: no recs
   -ID: watch WBC off [**Last Name (un) **]
   -plan to monitor mental status closely
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2120-4-24**] 05:59 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-4-24**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-25**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 84 (58 - 85) bpm
   BP: 110/50(89) {91/43(55) - 129/62(89)} mmHg
   RR: 20 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.6 kg (admission): 153.7 kg
   Height: 72 Inch
             Total In:
                                                                  1,837 mL
                                                                    788 mL
   PO:
             TF:
                                                                    489 mL
                                                                    418 mL
   IVF:
                                                                    948 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                  1,400 mL
   Urine:
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                   -813 mL
                                                                   -612 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Labs / Radiology
   75 K/uL
   8.6 g/dL
   170 mg/dL
   4.7 mg/dL
   28 mEq/L
   3.9 mEq/L
   31 mg/dL
   104 mEq/L
   143 mEq/L
   27.5 %
   9.0 K/uL
        [image002.jpg]
                             [**2120-4-21**]  03:40 PM
                             [**2120-4-22**]  04:00 AM
                             [**2120-4-22**]  04:27 AM
                             [**2120-4-22**]  04:25 PM
                             [**2120-4-22**]  05:34 PM
                             [**2120-4-23**]  02:02 AM
                             [**2120-4-23**]  02:14 AM
                             [**2120-4-23**]  02:53 PM
                             [**2120-4-24**]  02:59 AM
                             [**2120-4-25**]  02:41 AM
   WBC
   10.5
   9.1
   10.4
   9.1
   10.2
   9.0
   Hct
   24.9
   24.1
   24.5
   25.5
   26.9
   27.5
   Plt
   71
   70
   68
   77
   76
   75
   Cr
   5.9
   6.6
   6.4
   6.8
   5.7
   4.7
   TCO2
   26
   26
   28
   26
   Glucose
   266
   270
   142
   162
   197
   170
   Other labs: PT / PTT / INR:17.4/32.7/1.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:23/84, Alk Phos / T Bili:245/1.5, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:252 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   62M NASH, NSTEMI, trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridements, OSA, progressive ARF [**3-12**] hepatorenal
   syndrome on midodrine and albumin and volume overload originally
   brought to ICU with respiratory distress and bradycardia in the setting
   of volume overload and aspiration.
   # Mental Status: less agitated since started zydis but continues to be
   agitated at times. [**Month (only) 11**] be secondary to pain. Perhaps a component of
   opiate withdrawal (on dilaudid PO at home).  He has been on lactulose
   with good effect for about 1 week as well as off all sedation.  Neuro
   exam is nonfocal.
   - restraints
   - decrease lactulose to q6h
   - avoid sedating medications
   - scan head today vs tomorrow
   # Fever: Resolved. Temps to 102 over weekend but defervesced overnight.
   Infectious sources may be orthopedic, pulmonary, SBP, urinary, possibly
   thrombus. He is broadly covered on antibiotics. C. Diff negative.
   Ascitic fluid not appearing to be SBP. UA positive but insufficient
   sample for culture.
   - f/u serial blood cultures and line tip culture
   - repeat C. Diff
   - Continuing Dapto/[**Last Name (un) 1540**]/Mica
   - ID had recommended switching from daptomycin to linezolid; will
   consider switching if spikes again.
   # Respiratory Distress: Pt respiratory status significantly improved,
   s/p extubation on [**4-22**] and doing well on shovel mask.  Respiratory
   distress initially likely to be due to volume overload.
   - Pt now extubated
   - Decrease  lactulose 60 mg q4h to q6h
   - continue [**Last Name (un) **]/dapto/micafungin renally dosed; h/o MRSA in lungs
   - treating for e.coli in sputum with d/c of zosyn and addition of
   meropenem
   - appreciate ID recs
   - Continue famotidine
   .
   # Hypernatremia: Sodium down from 151 to 145 after receiving D5W on
   [**4-23**] in conjunction with PRBCs during dialysis.  FWD at that time was
   about 5 L.
   - Continue to monitor
   - F/U renal recs regarding further need for fluid.
   # Acute renal failure:   Pt. was transitioned from CVVH to HD and while
   he did not tolerate HD on [**4-22**], he was able to be dialyzed on [**4-23**] and
   is ordered for a tunneled HD line.
   - Pt is ordered for tunneled HD line placement for today
   - If unable to place tunneled line will dialyze through temporary HD
   line until able to place tunneled line
   - renally dose medications
   - continue midodrine for HRS
 albumin stopped on [**4-13**]
   - f/u renal recs in AM
   - strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology. Has had some
   increasing encephalopathy on the floor. No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-20**] with 2.2 L removed and no evidence of SBP. Albumin and nadolol
   DC
d on presentation.  Hep panel was sent and negative as was HBsAb
   - f/u paracentesis
   - decrease lactulose to q6h
   - continue rifaximin
   - continue midodrine
   - f/u liver recs, ask about need for HepB vaccine
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
    -Q3d vac changes
   - continue daptomycin, micafungin, stopped meropenem [**4-23**]
   - f/u sensitivities for C. glabrata
   - monitor wound cultures, blood cultures
   - surveillance blood cultures
   - f/u ortho recs
 wound vac changed per ortho
   - f/u ID recs
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today.
   - d/c famotidine
   - hold nadolol 20mg  in setting of Bradycardia
   - Will transfuse 1 unit PRBCs at HD
   # Hypernatremia
   - Increase free water boluses on return from OR (150)
   # Thrombocytopenia: Platelets trending down; suspect due to ESLD.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI, blood sugars in 200s.
   - follow up [**Hospital 294**] Clinic recs
   - increase ISS today
   # Hypertension: of note, will target peripheral BPs as A line appears
   to be giving diminished readings
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea: - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: intubated, OG tube in place
   - NPO now except for meds; change after returning from OR.
   - NGT to suction
   - continuing tube feeds
   # PPX: PPI, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
d and temporary line
   placed [**2120-4-19**]
   # CODE: FULL CODE
   # CONTACT: [**Name (NI) **] [**Name (NI) 11361**] (HCP) c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**] ;
   confirmed as HCP
   # DISPO: ICU for now, if respiratory status remains stable and mental
   status improves might consider calling out to floor in next few days
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-4-25**] 03:33 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Dialysis Catheter - [**2120-4-24**] 02:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-25 11:20:00 Physician Attending Progress Note
Chief Complaint: Renal Failure, Hepatic encephalopathy, RLE osteo
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More alert and following commands this AM
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2120-4-24**] 11:26 AM
 DIALYSIS CATHETER - START [**2120-4-24**] 02:24 PM --> new tunneled HD
   cath, old HD cath sent for culture
 ARTERIAL LINE - STOP [**2120-4-24**] 09:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2120-4-24**] 05:59 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2120-4-25**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2120-4-25**] 08:20 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-4-25**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 86 (70 - 90) bpm
   BP: 109/60(44) {91/45(44) - 131/73(89)} mmHg
   RR: 20 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.6 kg (admission): 153.7 kg
   Height: 72 Inch
             Total In:
                                                                  1,837 mL
                                                                  1,073 mL
   PO:
             TF:
                                                                    489 mL
                                                                    603 mL
   IVF:
                                                                    948 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                  1,400 mL
   Urine:
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                   -813 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, oral ulcer under upper lip
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, RLE external hardware
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   75 K/uL
   170 mg/dL
   4.7 mg/dL
   28 mEq/L
   3.9 mEq/L
   31 mg/dL
   104 mEq/L
   143 mEq/L
   27.5 %
   9.0 K/uL
        [image002.jpg]
                             [**2120-4-21**]  03:40 PM
                             [**2120-4-22**]  04:00 AM
                             [**2120-4-22**]  04:27 AM
                             [**2120-4-22**]  04:25 PM
                             [**2120-4-22**]  05:34 PM
                             [**2120-4-23**]  02:02 AM
                             [**2120-4-23**]  02:14 AM
                             [**2120-4-23**]  02:53 PM
                             [**2120-4-24**]  02:59 AM
                             [**2120-4-25**]  02:41 AM
   WBC
   10.5
   9.1
   10.4
   9.1
   10.2
   9.0
   Hct
   24.9
   24.1
   24.5
   25.5
   26.9
   27.5
   Plt
   71
   70
   68
   77
   76
   75
   Cr
   5.9
   6.6
   6.4
   6.8
   5.7
   4.7
   TCO2
   26
   26
   28
   26
   Glucose
   266
   270
   142
   162
   197
   170
   Other labs: PT / PTT / INR:17.4/32.7/1.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:23/84, Alk Phos / T Bili:245/1.5, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:252 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 ANXIETY
 ORTHOPEDIC DEVICE INFECTION (HARDWARE INFECTION, PROSTHETIC JOINT,
   ORTHOPAEDIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, OTHER
   62M NASH c/b cirrhosis, varices p/w infected RLE s/p trimalleolar fx /
   osteo with ex-fix
 developed respiratory distress in the setting of
   ARF and restriction from massive ascites. Ongoing encephalopathy, but
   slowly improving
   Cirrhosis/Encephalopathy: Muh more interactive today - cont lactulose,
   rifaxamin down NG tube.
   Foot infection: Cont dapto/micafungin.  Ortho, ID following following
   ARF: HD per renal through new HD line
   Oral ulcer: wound care
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-4-25**] 08:16 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Dialysis Catheter - [**2120-4-24**] 02:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2120-04-26 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ID recommends antibiotics for 6 week course after the last orthopedic
   intervention.  They recommended tissue sample during next ortho
   debridement for GS/Cx to determine if VRE sensitive to doxycycline.
   HepBsAb was negative - will need Hep B vaccine in future most likely.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2120-4-24**] 05:59 PM
   Daptomycin - [**2120-4-25**] 04:04 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2120-4-25**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2120-4-26**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-26**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.5
   HR: 98 (84 - 103) bpm
   BP: 126/62(77) {93/52(44) - 143/106(111)} mmHg
   RR: 23 (17 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.3 kg (admission): 153.7 kg
   Height: 72 Inch
             Total In:
                                                                  2,549 mL
                                                                    774 mL
   PO:
             TF:
                                                                  1,419 mL
                                                                    394 mL
   IVF:
                                                                    130 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                  1,200 mL
   Urine:
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    149 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Labs / Radiology
   132 K/uL
   8.2 g/dL
   237 mg/dL
   6.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   45 mg/dL
   108 mEq/L
   146 mEq/L
   27.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2120-4-22**]  04:00 AM
                             [**2120-4-22**]  04:27 AM
                             [**2120-4-22**]  04:25 PM
                             [**2120-4-22**]  05:34 PM
                             [**2120-4-23**]  02:02 AM
                             [**2120-4-23**]  02:14 AM
                             [**2120-4-23**]  02:53 PM
                             [**2120-4-24**]  02:59 AM
                             [**2120-4-25**]  02:41 AM
                             [**2120-4-26**]  04:02 AM
   WBC
   9.1
   10.4
   9.1
   10.2
   9.0
   9.8
   Hct
   24.1
   24.5
   25.5
   26.9
   27.5
   27.0
   Plt
   70
   68
   77
   76
   75
   132
   Cr
   6.6
   6.4
   6.8
   5.7
   4.7
   6.3
   TCO2
   26
   26
   28
   26
   Glucose
   [**Telephone/Fax (3) 11526**]97
   170
   237
   Other labs: PT / PTT / INR:17.4/33.5/1.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:18/66, Alk Phos / T Bili:282/1.5, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:249 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   62M NASH, NSTEMI, trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridements, OSA, progressive ARF [**3-12**] hepatorenal
   syndrome on midodrine and albumin and volume overload originally
   brought to ICU with respiratory distress and bradycardia in the setting
   of volume overload and aspiration.
   # Mental Status: Mental status significantly improved today. Now
   responding to simple questions and simple commands.
   - restraints
   - lactulose q6h
   - avoid sedating medications
   - Given improving mental status can d/c head CT for now and continue to
   follow exam
   # Fever: Resolved.  Last fever [**2120-4-20**].  Will continue to trend fever
   curve
   - f/u serial blood cultures and line tip culture
   - repeat C. Diff
   - Continuing Dapto /Mica
   - ID had recommended switching from daptomycin to linezolid; will
   consider switching if spikes again.
   # Respiratory Distress: Pt respiratory status significantly improved,
   s/p extubation on [**4-22**] and doing well on shovel mask.  Respiratory
   distress initially likely to be due to volume overload.
   - Pt now extubated
   - Decrease  lactulose 60 mg q4h to q6h
   - continue [**Last Name (un) **]/dapto/micafungin renally dosed; h/o MRSA in lungs
   - appreciate ID recs
 clarify antibiotic regimen
   - Continue famotidine
   .
   # Oral ulcer
   - wound care recs
 clean with chlorhexedine q4h
   - consider viscous lidocaine prn
   - consider ENT consult if unimproved over next few days
   .
   # Hypernatremia: Sodium down from 151 to 143 after receiving D5W on
   [**4-23**] in conjunction with PRBCs during dialysis.  FWD at that time was
   about 5 L.
   - Continue to monitor
   - F/U renal recs regarding further need for fluid.
   # Acute renal failure:   Pt. was transitioned from CVVH to HD and while
   he did not tolerate HD on [**4-22**], he was able to be dialyzed on [**4-23**] and
   is ordered for a tunneled HD line.
   - Pt is ordered for tunneled HD line placement for today
   - If unable to place tunneled line will dialyze through temporary HD
   line until able to place tunneled line
   - renally dose medications
   - continue midodrine for HRS
 albumin stopped on [**4-13**]
   - f/u renal recs in AM
   - strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology. Has had some
   increasing encephalopathy on the floor. No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-20**] with 2.2 L removed and no evidence of SBP. Albumin and nadolol
   DC
d on presentation.  Hep panel was sent and negative as was HBsAb
   - f/u paracentesis
   - decrease lactulose to q6h
   - continue rifaximin
   - continue midodrine
   - f/u liver recs, ask about need for HepB vaccine
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
    -Q3d vac changes
   - continue daptomycin, micafungin, stopped meropenem [**4-23**]
   - f/u sensitivities for C. glabrata
   - monitor wound cultures, blood cultures
   - surveillance blood cultures
   - f/u ortho recs
 wound vac changed per ortho
   - f/u ID recs
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today.
   - d/c famotidine
   - hold nadolol 20mg  in setting of Bradycardia
   - Will transfuse 1 unit PRBCs at HD
   # Hypernatremia
   - Increase free water boluses on return from OR (150)
   # Thrombocytopenia: Platelets trending down; suspect due to ESLD.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI, blood sugars in 200s.
   - follow up [**Hospital 294**] Clinic recs
   - increase ISS today, increase Lantus to 30
   # Hypertension: of note, will target peripheral BPs as A line appears
   to be giving diminished readings
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea: - pt. intubated
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: NGT in place, consider switching TF to renal as opposed to
   Pulmonary
   # PPX: PPI, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
d and temporary line
   placed [**2120-4-19**]
   # CODE: FULL CODE
   # CONTACT: [**Name (NI) **] [**Name (NI) 11361**] (HCP) c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**] ;
   confirmed as HCP
   # DISPO: ICU for now, if respiratory status remains stable and mental
   status improves might consider calling out to floor in next few days
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-4-26**] 02:31 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Dialysis Catheter - [**2120-4-24**] 02:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-26 12:34:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis, Hepatic encephalopathy, RLE extremity
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Getting HD this AM -> HR in 110s at the end of session
   Reports pain in his R leg
   24 Hour Events:
   Fevr to 100.6 this AM
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2120-4-24**] 05:59 PM
   Daptomycin - [**2120-4-25**] 04:04 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2120-4-26**] 08:17 AM
   Heparin Sodium (Prophylaxis) - [**2120-4-26**] 08:17 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Pain: [**2-10**] Minimal
   Flowsheet Data as of  [**2120-4-26**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.5
C (99.5
   HR: 112 (84 - 112) bpm
   BP: 95/56(64) {88/52(60) - 143/106(111)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 129.3 kg (admission): 153.7 kg
   Height: 72 Inch
             Total In:
                                                                  2,549 mL
                                                                  1,370 mL
   PO:
             TF:
                                                                  1,419 mL
                                                                    680 mL
   IVF:
                                                                    130 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                  2,100 mL
   Urine:
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    149 mL
                                                                   -730 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, ulcer on underside of upper
   lip stable
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, R external hardware in place
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   132 K/uL
   237 mg/dL
   6.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   45 mg/dL
   108 mEq/L
   146 mEq/L
   27.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2120-4-22**]  04:00 AM
                             [**2120-4-22**]  04:27 AM
                             [**2120-4-22**]  04:25 PM
                             [**2120-4-22**]  05:34 PM
                             [**2120-4-23**]  02:02 AM
                             [**2120-4-23**]  02:14 AM
                             [**2120-4-23**]  02:53 PM
                             [**2120-4-24**]  02:59 AM
                             [**2120-4-25**]  02:41 AM
                             [**2120-4-26**]  04:02 AM
   WBC
   9.1
   10.4
   9.1
   10.2
   9.0
   9.8
   Hct
   24.1
   24.5
   25.5
   26.9
   27.5
   27.0
   Plt
   70
   68
   77
   76
   75
   132
   Cr
   6.6
   6.4
   6.8
   5.7
   4.7
   6.3
   TCO2
   26
   26
   28
   26
   Glucose
   [**Telephone/Fax (3) 11526**]97
   170
   237
   Other labs: PT / PTT / INR:17.4/33.5/1.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:18/66, Alk Phos / T Bili:282/1.5, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:249 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 COMMUNICATE FUNCTIONALLY, INABILITY TO
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 SENSORY INTEGRITY, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 ANXIETY
 ORTHOPEDIC DEVICE INFECTION (HARDWARE INFECTION, PROSTHETIC JOINT,
   ORTHOPAEDIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, OTHER
   62M NASH c/b cirrhosis, varices p/w infected RLE s/p trimalleolar fx /
   osteo with ex-fix
 developed respiratory distress in the setting of
   ARF and restriction from massive ascites. Ongoing encephalopathy, but
   slowly improving
   Cirrhosis/Encephalopathy: cont lactulose, rifaxamin down NG tube. Still
   encephalopathic but now answering questions
   Foot infection: Cont dapto/micafungin.  Ortho, ID following following.
   VAC dressing change.
   ARF: Getting HD and tolerating other than increase in HR to 110s
   Oral ulcer: Cont wound care
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-4-26**] 12:04 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Dialysis Catheter - [**2120-4-24**] 02:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2120-04-27 08:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Name (NI) 4636**] Pt spiked temp to 101.4. Sent blood cx, urine cx, C.diff, got CXR.
   Restarted Meropenem.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2120-4-25**] 04:04 PM
   Micafungin - [**2120-4-26**] 05:26 PM
   Meropenem - [**2120-4-26**] 08:20 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2120-4-26**] 08:17 AM
   Heparin Sodium (Prophylaxis) - [**2120-4-27**] 12:09 AM
   Fentanyl - [**2120-4-27**] 03:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-27**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.3
C (99.1
   HR: 101 (98 - 112) bpm
   BP: 113/60(71) {88/46(60) - 136/76(80)} mmHg
   RR: 22 (20 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 127 kg (admission): 153.7 kg
   Height: 72 Inch
             Total In:
                                                                  2,621 mL
                                                                  1,315 mL
   PO:
             TF:
                                                                  1,326 mL
                                                                    445 mL
   IVF:
                                                                    165 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                  3,440 mL
                                                                    900 mL
   Urine:
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -819 mL
                                                                    415 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Labs / Radiology
   122 K/uL
   9.2 g/dL
   232 mg/dL
   5.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   37 mg/dL
   107 mEq/L
   146 mEq/L
   30.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2120-4-22**]  04:27 AM
                             [**2120-4-22**]  04:25 PM
                             [**2120-4-22**]  05:34 PM
                             [**2120-4-23**]  02:02 AM
                             [**2120-4-23**]  02:14 AM
                             [**2120-4-23**]  02:53 PM
                             [**2120-4-24**]  02:59 AM
                             [**2120-4-25**]  02:41 AM
                             [**2120-4-26**]  04:02 AM
                             [**2120-4-27**]  05:00 AM
   WBC
   10.4
   9.1
   10.2
   9.0
   9.8
   8.8
   Hct
   24.5
   25.5
   26.9
   27.5
   27.0
   30.2
   Plt
   68
   77
   76
   75
   132
   122
   Cr
   6.4
   6.8
   5.7
   4.7
   6.3
   5.3
   TCO2
   26
   26
   28
   26
   Glucose
   142
   162
   197
   170
   237
   232
   Other labs: PT / PTT / INR:17.9/31.5/1.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:14/66, Alk Phos / T Bili:274/1.5, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:256 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   62M NASH, NSTEMI, trimalleolar fracture s/p ex-fix with deep infection
   s/p multiple debridements, OSA, progressive ARF [**3-12**] hepatorenal
   syndrome on midodrine and albumin and volume overload originally
   brought to ICU with respiratory distress and bradycardia in the setting
   of volume overload and aspiration
   # Fever: temp [**Month/Day (2) **] to 101.4.  Last fever [**2120-4-20**]. No obvious localizing
   sources. CXR clear, no abdominal pain to suggest SBP. Pt has lines.
   Most likely source is leg given known deep wound infection. Pt afebrile
   and without leukocytosis this AM.
   - f/u serial blood cultures and line tip culture
   - repeat C. Diff
   - F/u CXR
   - Continuing Dapto /Mica
   - Restarted Meropenem
   - F/u ID recs
   - ID had recommended switching from daptomycin to linezolid; will
   consider switching if spikes again.
   .
   # Mental Status: Mental status significantly improved today. Now
   responding to simple questions and simple commands.
   - restraints
   - continue lactulose q6h
   - avoid sedating medications
   .
   # Respiratory Distress: Pt respiratory status significantly improved,
   s/p extubation on [**4-22**] and doing well off shovel mask.  Respiratory
   distress initially likely to be due to volume overload. Now 99% on RA.
   - Pt now extubated
   - Continue  lactulose 60 mg q6h
   - continue [**Last Name (un) **]/dapto/micafungin renally dosed; h/o MRSA in lungs
   - appreciate ID recs
 clarify antibiotic regimen
   - Continue famotidine
   .
   # Oral ulcer
   - wound care recs
 clean with chlorhexedine q4h
   - consider viscous lidocaine prn
   - no current need for ENT consult
   .
   # Acute renal failure:   Pt. was transitioned from CVVH to HD and while
   he did not tolerate HD on [**4-22**], he was able to be dialyzed on [**4-23**] and
   now has a tunneled HD line.
   - If unable to place tunneled line will dialyze through temporary HD
   line until able to place tunneled line
   - renally dose medications
   - continue midodrine for HRS
 albumin stopped on [**4-13**]
   - f/u renal recs in AM
   - strict I&Os
   - tx as above
   #Cirrhosis: Not transplant candidate per hepatology. Has had some
   increasing encephalopathy on the floor. No fever or abdominal pain
   concerning for SBP though always a possibility. Paracentesis performed
   [**4-20**] with 2.2 L removed and no evidence of SBP. Albumin and nadolol
   DC
d on presentation.  Hep panel was sent and negative as was HBsAb
   - decrease lactulose to q6h
   - continue rifaximin
   - continue midodrine
   - f/u liver recs, ask about need for HepB vaccine
   # RLE Cellulitis/Osteomyelitis: has cx with VRE and C. glabrata.
   - ID recommend next OR trip to sample tissue for GS/Culture and check
   sensitivities to doxycycline
    -Q3d vac changes
   - continue daptomycin, micafungin, stopped meropenem [**4-23**]
   - f/u sensitivities for C. glabrata
   - monitor wound cultures, blood cultures
   - surveillance blood cultures
   - f/u ortho recs
 wound vac changed per ortho. Need deep tissue sample
   per ID to tailor antibiotics. [**Month (only) 11**] do wash-out on Monday.
   - f/u ID recs
   # Anemia: HCT stable though trending down slowly. EGD on [**3-29**] showed
   varices and is now s/p banding/glueing.  Hct stable today.
   - d/c famotidine
   - hold nadolol 20mg  in setting of Bradycardia
   # Pain Control:  pt. complains of some pain in RLE
   - acetaminophen < 2g
   - fentanyl before vac change
   # Hypernatremia
   - Increase free water boluses on return from OR (150)
   # Thrombocytopenia: Platelets trending down; suspect due to ESLD.
   - daily PLT
   - transfuse <10 or evidence of bleeding
   # Diabetes mellitus: Continue SSI, blood sugars in 200s.
   - follow up [**Hospital 294**] Clinic recs
   - increase Lantus to 50 (from 45) and tighten sliding scale (4U for
   glucose increase of 50).
   # Hypertension: of note, will target peripheral BPs as A line appears
   to be giving diminished readings
   - hold nadolol d/t intermittent bradycardia
   - Holding metoprolol and amlodipine
   # Obstructive sleep apnea: - observe respiratory status
   # Rheumatoid arthritis: not on home medications. Will monitor for
   symptoms. No acute treatment needed currently.
   # Depression: Continue escitalopram and bupropion.
   # FEN: NGT in place, consider switching TF to renal as opposed to
   Pulmonary, f/u nutrition recs
   - 500cc NS bolus today, check HR, may consider maintenance fluids after
   # PPX: PPI, SC heparin, bowel regimen
   # ACCESS: PICC double lumen, HD line, A-line
   PICC Line - [**2120-4-12**] 10:10 PM
   Arterial Line - [**2120-4-13**] 09:25 PM
   Dialysis Catheter - [**2120-4-13**] 09:29 PM
d and temporary line
   placed [**2120-4-19**]
   # CODE: FULL CODE
   # CONTACT: [**Name (NI) **] [**Name (NI) 11361**] (HCP) c [**Telephone/Fax (1) 11362**] / home [**Telephone/Fax (1) 11363**] ;
   confirmed as HCP
   # DISPO: ICU for now, likely call out today to medicine (CC7 v. [**Wardname **])
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-4-27**] 02:50 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Dialysis Catheter - [**2120-4-24**] 02:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-27 10:38:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis/Hepatic encephalopathy, Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Fever spike last PM to 101.4
   Feels well - MS improving
   24 Hour Events:
 PAN CULTURE - At [**2120-4-26**] 06:16 PM
 STOOL CULTURE - At [**2120-4-27**] 06:41 AM
 FEVER - 101.4
F - [**2120-4-26**] 06:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2120-4-25**] 04:04 PM
   Micafungin - [**2120-4-26**] 05:26 PM
   Meropenem - [**2120-4-26**] 08:20 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-4-27**] 12:09 AM
   Fentanyl - [**2120-4-27**] 03:01 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-4-27**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.7
C (98
   HR: 102 (98 - 112) bpm
   BP: 124/67(79) {95/46(60) - 136/76(80)} mmHg
   RR: 23 (20 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 127 kg (admission): 153.7 kg
   Height: 72 Inch
             Total In:
                                                                  2,621 mL
                                                                  1,579 mL
   PO:
             TF:
                                                                  1,326 mL
                                                                    457 mL
   IVF:
                                                                    165 mL
                                                                    552 mL
   Blood products:
   Total out:
                                                                  3,440 mL
                                                                    900 mL
   Urine:
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -819 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, R hardware in place
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more alert
   Labs / Radiology
   9.2 g/dL
   122 K/uL
   232 mg/dL
   5.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   37 mg/dL
   107 mEq/L
   146 mEq/L
   30.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2120-4-22**]  04:27 AM
                             [**2120-4-22**]  04:25 PM
                             [**2120-4-22**]  05:34 PM
                             [**2120-4-23**]  02:02 AM
                             [**2120-4-23**]  02:14 AM
                             [**2120-4-23**]  02:53 PM
                             [**2120-4-24**]  02:59 AM
                             [**2120-4-25**]  02:41 AM
                             [**2120-4-26**]  04:02 AM
                             [**2120-4-27**]  05:00 AM
   WBC
   10.4
   9.1
   10.2
   9.0
   9.8
   8.8
   Hct
   24.5
   25.5
   26.9
   27.5
   27.0
   30.2
   Plt
   68
   77
   76
   75
   132
   122
   Cr
   6.4
   6.8
   5.7
   4.7
   6.3
   5.3
   TCO2
   26
   26
   28
   26
   Glucose
   142
   162
   197
   170
   237
   232
   Other labs: PT / PTT / INR:17.9/31.5/1.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:14/66, Alk Phos / T Bili:274/1.5, Amylase / Lipase:/101,
   Differential-Neuts:79.4 %, Band:1.0 %, Lymph:12.6 %, Mono:3.9 %,
   Eos:3.7 %, Lactic Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:256 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 COMMUNICATE FUNCTIONALLY, INABILITY TO
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 SENSORY INTEGRITY, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O PNEUMONIA, ASPIRATION
 ALTERATION IN NUTRITION
 ANXIETY
 ORTHOPEDIC DEVICE INFECTION (HARDWARE INFECTION, PROSTHETIC JOINT,
   ORTHOPAEDIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
 CIRRHOSIS OF LIVER, OTHER
   62M NASH c/b cirrhosis, varices p/w infected RLE s/p trimalleolar fx /
   osteo with ex-fix
 developed respiratory distress in the setting of
   ARF and restriction from massive ascites. Encephalopathy improving.
   Fever spike last PM.
   Cirrhosis/Encephalopathy: cont lactulose, rifaxamin down NG tube.
   Improving
   Foot infection: Cont dapto/micafungin.  Fever spike last PM - f/u cxs.
   Consider switch from dapto to linezolid if spikes again.  VAC dressing
   changes per ortho.
   ARF: HD per renal
   Tachycardia: could combination of hypovolemia, fever, pain --> stable
   will cont to monitor
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-4-12**] 10:10 PM
   Dialysis Catheter - [**2120-4-24**] 02:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: